2173-02-14 07:53:00 Physician Resident Progress Note
Chief Complaint: hymopytsis
   24 Hour Events:
   -- attempted to bronch patient, but did not feel could tolerate, and
   procedure was postposned
   -- increased hypoxia, patient given 40mg IV lasix
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-13**] 03:36 PM
   Acyclovir - [**2173-2-13**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-13**] 03:36 PM
   Midazolam (Versed) - [**2173-2-13**] 07:42 PM
   Fentanyl - [**2173-2-13**] 07:42 PM
   Insulin - Regular - [**2173-2-13**] 10:07 PM
   Furosemide (Lasix) - [**2173-2-14**] 02:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Orthopnea
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria, No(t) Foley
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2173-2-14**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 91 (85 - 125) bpm
   BP: 148/108(119) {141/79(99) - 168/111(126)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    650 mL
                                                                    173 mL
   PO:
             TF:
   IVF:
                                                                    650 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    950 mL
   Urine:
                                                                    600 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                   -777 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   throughout, prominent, Wheezes : audible anterioraly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): PP,T, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   61 K/uL
   9.9 g/dL
   166 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.0 mEq/L
   51 mg/dL
   106 mEq/L
   141 mEq/L
   27.7 %
   0.3 K/uL
        [image002.jpg]
                             [**2173-2-13**]  04:59 PM
                             [**2173-2-14**]  03:29 AM
   WBC
   0.8
   0.3
   Hct
   27.8
   27.7
   Plt
   73
   61
   Cr
   1.2
   Glucose
   166
   Other labs: PT / PTT / INR:17.5/29.1/1.6, ALT / AST:28/29, Alk Phos / T
   Bili:92/1.2, Fibrinogen:121 mg/dL, LDH:571 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR:  FINDINGS:  A single portable image of the chest was
   obtained and compared to
   the prior examination dated [**2173-2-12**] demonstrating no significant
   interval
   change.  Persistent pulmonary edema associated with minimal left
   basilar
   streaky opacities likely reflects minimal atelectasis.
   Cardiomediastinal
   silhouette is stable and within normal limits.  A left PICC catheter is
   again
   noted terminating at the expected region of the cavoatrial junction.
   Microbiology: GRAM STAIN (Final [**2173-2-10**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2173-2-12**]):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
      VARICELLA-ZOSTER CULTURE (Preliminary):
         HERPES SIMPLEX LIKE CYTOPATHIC EFFECT.
         CULTURE CONFIRMATION PENDING.
      FUNGAL CULTURE (Preliminary):
         NO FUNGUS ISOLATED.
         A swab is not the optimal specimen for recovery of mycobacteria
   or
         filamentous fungi.  A negative result should be interpreted with
         caution.  Whenever possible tissue biopsy or aspirated fluid
   should
         be submitted.
     CMV Viral Load (Pending):
   Assessment and Plan
   A/P: Ms. [**Known lastname 1025**] is a 60 yo F with newly diagnosed APML, now day 12 of
   [**Hospital 1322**] transferred to the [**Hospital Unit Name 44**] with hemoptysis and new respiratory
   requirement x 1 day.
   .
   1) Hemoptysis:  Differential includes ATRA-induced pulmonary hemorrhage
   vs. DAH in the setting of DIC vs. HSV pneumonitis vs. other infectious
   etiology in this immunocompromised host, with possible noncardiogenic
   or cardiogenic pulm edema further contributing.  Respiratory status
   currently tenous, increased O2 needs, although patient increased
   comfort w/ diuresis.   Although BAL would be useful in evaluating
   etiology, do not feel that she could tolerate at this time.  Induce
   sputum all negative / pending thus far.
   -- discuss w/ bronc the urgency of bronch.
   -- cont epiric treatment for herpetic mucosytis w/ acyclovir
   -- continue steroids for ATRA syndrome at 10mg iv bid
   -- continue levoflox for atypical pna coerage
   -- recheck ABG
   -- continue diuresis, given sx improvmenet overnight, elevated BNP,
   goal
   -- rechect TTE to see evidence for new HF
   - - Checked DIC labs as this coagulopathy is commonly seen in APML and
   may result in pulmonary hemorrhage, not overwhelming for DIC, w/ normal
   haptoglobin levels, midly low fibrinogen, rising INR.  Will transfused
   FFP to correct INR
   - Goal platelets > 100K, hematocrit > 21, INR <1.5 in the setting of
   active bleeding.  Will transfuse plt today
   - serial hematocrits
   .
   2) Hypoxia:  Unclear if this is related or unrelated to hemoptysis.
   Patient appears to be fluid overload, likely secondary to ARF vs.
   cardiogenic. Significantly elevated BNP w/ oxygenation that improved
   with diuresis.
   - Will pursue diagnostic bronchoscopy with bronchoalveolar washings for
   serial hematocrits, HSV, CMV, HHV6, bacterial and fungal cultures when
   oxygenation can tolerate, but will discuss w/ onc the urgency of this
   procedure
   - continue to diuresis w/ goal of negative 1L to 1.5L
   #. APML. Patient with 15-17 translocation, now ATRA day 12. neutropenia
   and respiratory decompensation
   -Following CBC, coags, fibrinogen, tumor lysis labs daily
   -Continue giving cryo to maintain fibrinogen > 100; would hold off on
   further blood products for now unless evidnece of active bleeding
   -will hold allopurinol as no danger of tumor lysis in this neutrapenic
   patient
   .
   #. Increased LFTs: Patient with unremarkable hepatitis serologies and a
   negative liver ultrasound. Unlikely to be med effect.
   -Will follow synthetic function
   - statin held
   .
   # HTN: Currently on metroprolol alone, difficulty taking PO meds, so
   may not tolerate.  Remains hypertensive.  Will diuresis w/ lasix, [**Doctor Last Name **]
   give metoprolol 6qh, but may d/c if evidence of systolic HF on TTE
   .
   # Hypothyroidism: Continue on levothyroxine at outpatient dose.
   # ARF--imrpoved from peak but stable elevation, likely tubular damage
   from atra, following, good u/o response diuresis
   .
   # FEN. NPO until HD stable.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2173-02-14 10:30:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay, treated with diuresis and NPPV, and ATRA
   syndrome, and herpetic mucocytis transferred back to MICU for
   hemoptysis and hypoxemia
   24 Hour Events:
 PICC LINE - START [**2173-2-13**] 01:00 PM
 aborted BRONCHOSCOPY given desats during  prep and increased O2 needs
   Induced sputum sent for viral cxs/fungal cx's
   Increasing O2 requirements overnight
70% high flow, bnp returned  >
   70,000,
   + response to lasix 40 then 80 w/ good u/o
   Reduced frequency of bloody secretions
   History obtained from Patient, house staff
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-14**] 08:16 AM
   Acyclovir - [**2173-2-14**] 09:31 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2173-2-13**] 07:42 PM
   Fentanyl - [**2173-2-13**] 07:42 PM
   Insulin - Regular - [**2173-2-13**] 10:07 PM
   Furosemide (Lasix) - [**2173-2-14**] 02:34 AM
   Pantoprazole (Protonix) - [**2173-2-14**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: dysphagia
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-2-14**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.7
   HR: 112 (85 - 125) bpm
   BP: 153/104(117) {141/79(99) - 168/111(126)} mmHg
   RR: 20 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    650 mL
                                                                    426 mL
   PO:
             TF:
   IVF:
                                                                    650 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                  1,450 mL
   Urine:
                                                                    600 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     50 mL
                                                                 -1,024 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   upper > lower, Wheezes : scattered , Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   61 K/uL
   166 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.0 mEq/L
   51 mg/dL
   106 mEq/L
   141 mEq/L
   27.7 %
   0.3 K/uL
        [image002.jpg]
                             [**2173-2-13**]  04:59 PM
                             [**2173-2-14**]  03:29 AM
   WBC
   0.8
   0.3
   Hct
   27.8
   27.7
   Plt
   73
   61
   Cr
   1.2
   Glucose
   166
   Other labs: PT / PTT / INR:17.5/29.1/1.6, ALT / AST:28/29, Alk Phos / T
   Bili:92/1.2, Fibrinogen:121 mg/dL, LDH:571 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: bnp > 70,000
   Imaging: fluffy b/l opacities appear diffuse but lower lung zone
   predominant, L picc ok, unchanged from yesterday
   Microbiology: cx's pending
   induced sputum pending --cmv viral laod
       pending, hsv,
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis transferred back to MICU for
   hemoptysis and hypoxemia
   Primary issues include:
   #Hemoptysis/hypoxemia/elevated BNP
concerning for DAH from ATRA with
   DIC verses herpetic, viral, fungal or HAP pna in immunosupressed host,
   with possible noncardiogenic verses cardiogenic pulm edema further
   contributing.
        - Respiratory status remains tenuous with increased o2 needs.
   Although with no acute indication for intubation at present, would not
   tolerate bronchoscopy without being intubated. Given significantly
   elevated BNP s/o significant pulm edema, will continue aggressive
   diuresis to optimize oxygenation.  Will also use NPPV which might
   further assist with oxygenation and volume removal.  Continued
   discussions with transplant and plan for probable bronchoscopy tomorrow
   with elective intubation, which may effect management plan.
   Bronchoscopy will be helpful in further assessing for alveolar
   hemorrhage (DAH) with serial BAL/hcts to evaluate for increasingly
   bloody return or opportunistic infection with BAL cx
s data (viral and
   bacterial).
        - Induced sputum for HSV, CMV, fungal and bacterial cx
s is
   pending.
        - Remains on treatment dose acyclovir given herpetic mucocytis,
   continuing steroids for atra syndrome at dose of 10 IV BID.
        - Given that pt remains af and hemodynamically stable will hold on
   aggressive escalation of antibx coverage pending further cx
   information, now s/p course of levo for atypical pna.
         - Continue to follow ABGs
          -Given with elevated BNP--would repeat echocardiogram
           Following h/h and heme labs serially
   # Neutropenia
afebrile and hemodynamically stable, remains on
   neutropenic precautions,
         Maintain low threshold for adding vanco, in addition to aztreonam
   and possibly fungal coverage and removing picc line if spikes temp.  At
   this time has been neutropenic for rather short time such that invasive
   fungal infections seem less likely, though has probably had a
   functional neutropenia from APML.
    # APML with atra syndrome and dic
continue fluconazole per transplant
   service
           Decadron for atra syndrome, holding atra per onc, daily tumor
   lysis labs--follow uric acid level though unable to tolerate po
   allopurinal
           Following dic labs [**Hospital1 **] and transfusing for thresholds of inr <
   1.5, plt > 100, fibrinogen > 100--transfuse FFP at this time given
   elevated INR and  plts
   # HTN--heart rate better today though BP remains elevated, unable to
   tolerate metoprolol PO
suspect diastolic dysfx which may benefit from
   rate control--change to IV BB q 6 and await echo findings
   # ARF--improved from peak but remains with stable elevation, likely
   tubular damage from atra, continues with good u/o and nice response to
   diuresis
   # Pain
well controlled with morphine
   Pt otherwise with resolving transaminitis and prior negative RUQ and
   hep serologies
   ICU Care
   Nutrition:
   Comments: NPO except for sips
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40  minutes
   Patient is critically ill

2173-02-15 07:50:00 Physician Resident Progress Note
Chief Complaint: Hemopytsis
   24 Hour Events:
   - Bronch planned for [**2-15**] am
   - transfused 1 unit pRBCs for HCT<24
   - metoprolol started and subsequently increased from 5mg to 10mg q6
   - diureses goal net neg 1L
   - tumor lysis labs daily
   - DIC labs bis, appears to be chronic, smoldering DIC
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-14**] 08:16 AM
   Acyclovir - [**2173-2-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-14**] 08:00 AM
   Metoprolol - [**2173-2-14**] 12:55 PM
   Furosemide (Lasix) - [**2173-2-14**] 02:08 PM
   Insulin - Regular - [**2173-2-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema,
   Tachycardia
   Nutritional Support: NPO
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria, No(t) Foley
   Flowsheet Data as of  [**2173-2-15**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 107 (98 - 128) bpm
   BP: 140/100(108) {125/86(87) - 171/117(127)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,900 mL
                                                                    663 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                    916 mL
                                                                     85 mL
   Blood products:
                                                                    884 mL
                                                                    579 mL
   Total out:
                                                                  4,300 mL
                                                                    200 mL
   Urine:
                                                                  4,300 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,400 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Diaphoretic
   Head, Ears, Nose, Throat: necrotic black ulcers covering tongue
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: on expiration anteriorally b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   75 K/uL
   10.3 g/dL
   142 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   63 mg/dL
   107 mEq/L
   146 mEq/L
   28.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2173-2-13**]  04:59 PM
                             [**2173-2-14**]  03:29 AM
                             [**2173-2-14**]  06:00 PM
                             [**2173-2-15**]  04:34 AM
   WBC
   0.8
   0.3
   Hct
   27.8
   27.7
   24.2
   28.4
   Plt
   73
   61
   131
   75
   Cr
   1.2
   1.5
   Glucose
   166
   142
   Other labs: PT / PTT / INR:16.7/25.9/1.5, ALT / AST:28/29, Alk Phos / T
   Bili:92/1.2, Fibrinogen:178 mg/dL, LDH:527 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs: UricA:7.2
   Hapto: <20
   FDP: 80-160
   Fibrinogen: 178
   Imaging: CXR:
   IMPRESSION:
   1.  New right basilar patchy opacity likely represents some combination
   of
   edema, pneumonia and/or atelectasis.
   2.  Persistent pulmonary edema.
   Microbiology:    CMV Viral Load (Pending):
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML receiving ATRA, strasnfered to [**Hospital Unit Name 44**] w/
   hemopytsis and new respiratory requirment which as been worsening
   1) Hemoptysis:  Differnetial includes ATRA-induced pulonary hemorrhage,
   vs. DAH in setting of DIC vs HSV pneumonitis vs. other infectious
   etiology w/ neutrapenia.  Also, cannot excluded cardiogenic pulm edema
   further contributing, although O2 has not improved w/ diuresis.
   Respiratory status currently tenous, w/ increased O2 requrment.
        - planned [**Last Name (un) 1340**] today w/ intubation
        - cont empiric treatment for herpetic mucosytis w/ acyclovir
        - continue steroids for ATRA at 10mg IV BID
        - now completed lvoflox tx for atypical coverage
        - TTE today for evaluation of possible new HF
        - patient w/ evidence of smoldering DIC, bleeding has improved w/
   more strigent plt requirments.  Transfuse to maintain plt > 100, INR <
   1.5, fibrinogen > 100
        - follow serial DIC and CBC labs
        - lasix this morning given worsened O2, will not over diurese
   given rising Cr
   2)       Hypoxia:  Unclear if this is related to hemoptytis or separate
   etiology.  Had believed some component due to fluid overload w/
   elevated BNP, no clear pleural effusions on CXR.  Cr has increased w/
   diuresis, but no improvement of oxygentation.
   -          hold further diuresis
   -          bronch today for BaL for HSV, CMV, HHV6, bacterial and
   fungal Cx
   -          TTE today
   3)       APML:  Patient w/ 15-17 translocation, had receive ATRA for 12
   days.  Worsening neutrapenia and respiratory decompensation.
   -          follow [**Hospital1 **] CBC, cags, fibrinogen
   -          continue cry to maitain above parameters
   -
   4)       HTN:  continued hyptertension, receiving metoprolol 10mg
   (increased) q6h, will discuss switching to labatolol as lopressor
   ineffective BP med.
   5)       Hypothyroidism: cont levothryoxine at OP dose
   6)       ARF:  imprved from peak, believed likely tubular damage from
   ATRA, increased w/ [**Last Name (LF) 1341**], [**First Name3 (LF) 178**] hold further diuresis.
   ICU Care
   Nutrition:
   Comments: Difficulty w/ PO intake, consider starting TPN
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2173-02-15 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress/hemoptysis
   HPI:
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis transferred back to MICU for
   hemoptysis and hypoxemia
   24 Hour Events:
   Transfused 1 U PRBC
   Progressive hypoxia requiring increased FIo2, refused NPPV
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2173-2-15**] 09:02 AM
   Fluconazole - [**2173-2-15**] 09:15 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2173-2-14**] 12:55 PM
   Furosemide (Lasix) - [**2173-2-14**] 02:08 PM
   Insulin - Regular - [**2173-2-14**] 11:00 PM
   Pantoprazole (Protonix) - [**2173-2-15**] 09:02 AM
   Other medications: per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: mouth pain, some bleeding from oral lesions
   Respiratory: No(t) Dyspnea, orthopnea
   Flowsheet Data as of  [**2173-2-15**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 115 (99 - 128) bpm
   BP: 144/113(121) {125/83(87) - 171/117(127)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  1,900 mL
                                                                    919 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                    916 mL
                                                                    340 mL
   Blood products:
                                                                    884 mL
                                                                    579 mL
   Total out:
                                                                  4,300 mL
                                                                    200 mL
   Urine:
                                                                  4,300 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,400 mL
                                                                    719 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula, High flow neb
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Head, Ears, Nose, Throat: ulcers on tongue
   Cardiovascular: JVP elevated.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   b/l bases), (Breath Sounds: Bronchial: b/l R > L )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   75 K/uL
   142 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   63 mg/dL
   107 mEq/L
   146 mEq/L
   28.4 %
   0.3 K/uL
        [image002.jpg]
                             [**2173-2-13**]  04:59 PM
                             [**2173-2-14**]  03:29 AM
                             [**2173-2-14**]  06:00 PM
                             [**2173-2-15**]  04:34 AM
   WBC
   0.8
   0.3
   Hct
   27.8
   27.7
   24.2
   28.4
   Plt
   73
   61
   131
   75
   Cr
   1.2
   1.5
   Glucose
   166
   142
   Other labs: PT / PTT / INR:16.7/25.9/1.5, ALT / AST:28/29, Alk Phos / T
   Bili:92/1.2, Fibrinogen:178 mg/dL, LDH:527 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Fluid analysis / Other labs: Haptoglobin < 20
   fibrinogen 178 ( goal > 100)
   Imaging: CXR - b/l fluffy infiltrates with new consolidation at Right
   base with air bronchograms.
   Microbiology: CMV viral load pending
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis transferred back to MICU for
   hemoptysis and hypoxemia
   Primary issues include:
 HEMOPTYSIS/hypoxemia
       Ddx remains  DAH, ATRA rxn, Pneumonia (including viral or fungal
   penumonitis), CHF (given high BNP), s/p course of levo for atypical pna
       Currently with worsening imaging and oxygenation
       Unable to obtain good induced sputum for HSV, CMV, fungal and
   bacterial cx
s, CMV viral load is  pending
        - Temporized with NPPV but given decline and need for bronch for
   further dx through BAL for DAH and cx
s will intubate
        - continuing steroids for atra syndrome at dose of 10 IV BID--p
   ending bronch dx for DAh and further infection r/o consider more
   aggressive steroid dosing per onc team
        - await echocardiogram today and diurese
        - Following h/h and heme labs serially
      # Hospital Acquired Pneumonia
          With new pneumonia by imaging, will cover for HAP with
   Vancomycin and Aztreonam (PCN allergy).
           Remains on fungal prophylaxis, and acyclovir for herpetic
   mucocytis
          Additional cx
s for fungus, viral, with bronch
       # RESPIRATORY FAILURE, ACUTE.
          Ddx as above, meets critera for ARDS ,Plan for endotracheal
   intubation, low tidal volume ventilation, continue decadron.
          Will check TTE today to assess left ventricular function.
   Additional lasix .
 NEUTROPENIA
   Currently afebrile, abx as above.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   # ARF-- likely tubular damage from atra vs atn, improved from peak but
   BUN/Cr increasing with diuresis, continues with good u/o and nice
   response to diuresis,
    # APML with atra syndrome and dic
continue fluconazole per transplant
   service
           Decadron for atra syndrome, holding atra per onc, daily tumor
   lysis labs--follow uric acid level though unable to tolerate po
   allopurinal
           Following dic labs [**Hospital1 **] and transfusing for thresholds of inr <
   1.5, plt > 100, fibrinogen > 100--transfuse FFP at this time given
   elevated INR and  plts
   # HTN--change to IV BB q 6 vs gtt, await echo findings, afterload
   reduction w/ hydral  or captopril if LV is now depressed on repeat echo
   (was nl)
   # Pain
well controlled with morphine, change to fent versed once
   intubated
   Pt otherwise with resolving transaminitis and prior negative RUQ and
   hep serologies
   ICU Care
   Nutrition:
   Comments: NPO pending intubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Comments: Will place A-line today, tripple lumen today.
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2173-02-16 07:31:00 Physician Resident Progress Note
Chief Complaint: Hemopytsis
   24 Hour Events:
   - intubated for worsening resp distress & desats
   - ECHO shows new profound global hypokinesis of unclear etiology, cards
   consulted
   - started Ace-I, Hydralazine, cardiac enzymes getting cycled
   - started on Tamiflu, Vanc, Aztreonam
   - bedside bronch showed clot in airways, plan for IP bronch in am
   - Doboff placed for meds/TFs
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-15**] 09:15 AM
   Acyclovir - [**2173-2-15**] 07:30 PM
   Vancomycin - [**2173-2-15**] 09:00 PM
   Aztreonam - [**2173-2-15**] 10:15 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-15**] 09:02 AM
   Midazolam (Versed) - [**2173-2-16**] 12:09 AM
   Fentanyl - [**2173-2-16**] 12:09 AM
   Hydralazine - [**2173-2-16**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: tachycardia and BP improved control
   Respiratory: frank blood from ET suctioning
   Flowsheet Data as of  [**2173-2-16**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 97 (97 - 135) bpm
   BP: 116/60(76) {112/60(76) - 173/102(125)} mmHg
   RR: 16 (14 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,142 mL
                                                                    316 mL
   PO:
             TF:
   IVF:
                                                                  1,468 mL
                                                                    316 mL
   Blood products:
                                                                    579 mL
   Total out:
                                                                  3,070 mL
                                                                    555 mL
   Urine:
                                                                  3,070 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula, High flow neb
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 550) mL
   Vt (Spontaneous): 426 (426 - 426) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.47/43/141/30/7
   Ve: 7.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: slighly improved)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   39 K/uL
   8.0 g/dL
   162 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.4 mEq/L
   63 mg/dL
   108 mEq/L
   148 mEq/L
   23.4 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-15**]  10:49 AM
                             [**2173-2-15**]  11:41 AM
                             [**2173-2-15**]  01:07 PM
                             [**2173-2-15**]  03:36 PM
                             [**2173-2-15**]  04:39 PM
                             [**2173-2-15**]  09:15 PM
                             [**2173-2-15**]  11:31 PM
                             [**2173-2-15**]  11:43 PM
                             [**2173-2-16**]  04:06 AM
                             [**2173-2-16**]  04:26 AM
   WBC
   0.1
   Hct
   25.6
   23.4
   Plt
   108
   76
   39
   Cr
   1.4
   1.3
   1.4
   TropT
   0.05
   TCO2
   27
   29
   30
   32
   32
   32
   Glucose
   [**Telephone/Fax (3) 1356**]
   Other labs: PT / PTT / INR:16.2/27.7/1.4, CK / CKMB /
   Troponin-T:/3/0.05, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:321 mg/dL, Lactic Acid:1.8 mmol/L, LDH:400 IU/L, Ca++:7.4
   mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Fibrinogen: 321
   UricA:6.2
   proBNP: >[**Numeric Identifier 1357**]
   Imaging: ETT 3.3 above carina. Dubhof tip projects below diaphragm.
   Interval
   improvement in aerartion of the right lower lobe.
   CXR  FINDINGS:  In comparison with study of [**2-14**], persistent pulmonary
   edema.
   Progressive consolidation with air bronchogram at the right base is
   suggestive
   of pneumonia.  A lateral view would be most helpful if the patient's
   condition
   would permit.
   TTE:  The left atrium is normal in size. Left ventricular wall
   thicknesses and cavity size are normal. There is severe global left
   ventricular hypokinesis (LVEF = 20 %). The anterior septum and anterior
   wall are akinetic, the lateral wall has relatively preserved function.
   Tissue Doppler imaging suggests an increased left ventricular filling
   pressure (PCWP>18mmHg). There is no ventricular septal defect. Right
   ventricular chamber size is normal. with mild global free wall
   hypokinesis. The aortic valve leaflets (3) appear structurally normal
   with good leaflet excursion and no aortic regurgitation. The mitral
   valve leaflets are structurally normal. Mild (1+) mitral regurgitation
   is seen. Moderate to severe [3+] tricuspid regurgitation is seen. There
   is mild pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Compared with the prior study (images reviewed) of [**2173-2-2**], the
   patient's ejection fraction has declined from >70% to now 20%. This
   appears to be a global phenomenon although the anterior akinesis raises
   the suspicion of coronary artery disease as a possibility. There is now
   moderate to severe tricuspid regurgitation and mild mitral
   regurgitation.
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML receiving ATRA, strasnfered to [**Hospital Unit Name 44**] w/
   hemopytsis and new respiratory requirment which as been worsening
   1) Hemoptysis:  Differnetial includes ATRA-induced pulonary hemorrhage,
   vs. DAH in setting of DIC vs HSV pneumonitis vs. other infectious
   etiology w/ neutrapenia. Respiratory was tenous yesterday, w/ increased
   O2 requrment, now intubated.
       - IP will perform rigid bronch today
        - cont empiric treatment for herpetic mucosytis w/ acyclovir
        - continue steroids for ATRA at 10mg IV BID
        - now completed lvoflox tx for atypical coverage
        - b/c BCX showed gram + cocci, started vanc/azeotrnam
        - patient w/ evidence of smoldering DIC, bleeding has improved w/
   more strigent plt requirments.  Transfuse to maintain plt > 100, INR <
   1.5, fibrinogen > 100
        - follow serial DIC and CBC labs
   2)            Hypoxia:  Unclear if this is related to hemoptytis or
   separate etiology.  TTE now showing severe global systolic dysfunction,
   believed secondary to chemotherapy.  BNP > 70,000
   -   f/u cards recs, avoid BB in setting of acute CHF
   -   diurese as tolerated
   -  discuss time frame of chemo to see if consistent etiology
   3) APML, worsening neutrapenia nad respiratoyr decompensation.  Believe
   that chemo induced cardiac toxicity to blame.   Has received 12 days of
   ATRA.  Will discuss future plan w/ BMT service.
   $)  HTN:  was on labatolo,now d/c
d to avoid BB in acute CHF.  Started
   on IV hydral and ACE for BP control will good effect.  F/u w/ cards
   recarding further recs.
   5) ARF:  improved from peka, at the time was believed due to tubular
   damage from AtrA.  Continue to diurese and monitor Cr.
   ICU Care
   Nutrition:
   Comments: NPO for bronch, begin TF following
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2173-02-16 11:06:00 Physician Attending Progress Note
Chief Complaint: hemoptysis, hypoxemiarespiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 60 yo F with APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure [**1-16**]
   hemoptysis, systolic CHF, HAP
   24 Hour Events:
   pan cx'd
   intubated
   BRONCHOSCOPY - At [**2173-2-15**] 03:44 PM--yesterday with adherant clot at
   r and L mainstem, no active bleed seen
   IP bronch this am--fungal viral cmf, hsv, gram stain, and cell ct sent,
   no active bleeding seen, clot
   echo with new global HK and LVEF 10-15%--ace-i and hydral started for
   after load reduction, chf c/s obtained
   History obtained from hosue staff
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-15**] 09:00 PM
   Aztreonam - [**2173-2-15**] 10:15 PM
   Acyclovir - [**2173-2-16**] 08:00 AM
   Fluconazole - [**2173-2-16**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2173-2-16**] 12:09 AM
   Fentanyl - [**2173-2-16**] 12:09 AM
   Hydralazine - [**2173-2-16**] 06:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-16**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.5
C (95.9
   HR: 106 (97 - 135) bpm
   BP: 120/65(82) {104/56(69) - 173/102(125)} mmHg
   RR: 19 (13 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  2,142 mL
                                                                    962 mL
   PO:
           TF:
   IVF:
                                                                  1,468 mL
                                                                    654 mL
   Blood products:
                                                                    579 mL
                                                                    283 mL
   Total out:
                                                                  3,070 mL
                                                                    965 mL
   Urine:
                                                                  3,070 mL
                                                                    965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -928 mL
                                                                     -3 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.47/43/141/30/7
   Ve: 7.3 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: ), throughout
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   39 K/uL
   162 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.4 mEq/L
   63 mg/dL
   108 mEq/L
   148 mEq/L
   23.4 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-15**]  10:49 AM
                             [**2173-2-15**]  11:41 AM
                             [**2173-2-15**]  01:07 PM
                             [**2173-2-15**]  03:36 PM
                             [**2173-2-15**]  04:39 PM
                             [**2173-2-15**]  09:15 PM
                             [**2173-2-15**]  11:31 PM
                             [**2173-2-15**]  11:43 PM
                             [**2173-2-16**]  04:06 AM
                             [**2173-2-16**]  04:26 AM
   WBC
   0.1
   Hct
   25.6
   23.4
   Plt
   108
   76
   39
   Cr
   1.4
   1.3
   1.4
   TropT
   0.05
   TCO2
   27
   29
   30
   32
   32
   32
   Glucose
   [**Telephone/Fax (3) 1356**]
   Other labs: PT / PTT / INR:16.2/27.7/1.4, CK / CKMB /
   Troponin-T:30/3/0.05, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:321 mg/dL, Lactic Acid:1.8 mmol/L, LDH:400 IU/L, Ca++:7.4
   mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: bnp rechecked--remains 70,000
   Imaging: echo--wedge > 18, global HK, severe TR, 1+ MR, ef 15%
   cxr--pulm edema, abg r base, effusion
   Microbiology: blood cx--gpc in clusters [**12-16**]
   sputum--4 + gpc on gram stain, cx pending
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure [**1-16**]
   hemoptysis, systolic CHF, HAP
    Primary issues include:
 Respiratory failure:
     # HEMOPTYSIS
       - S/p bronch today with cx's sent HSV, CMV, fungal and bacteria,
   CMV viral load is  pending
          No evidence of active bleeding from distal airways to suggest
   DAH
          Clot and old blood in central airways, likely from coagulopathy,
   CHF
      - Continues dexa for atra syndrome
       - Montioring DIC labs and transfusing for paramenters, vit k
      #Systolic heart failure
         Global  LV dysfx on echo--? [**Doctor Last Name **] atra vs ido vs combo (synergy)
   as etiology
         Continue afterload reduction, diuresis, chf/cards recs
      # Hospital Acquired Pneumonia --now with gpc in sputum
        - Continue Vancomycin and Aztreonam (PCN allergy)
        - Additional cx
s for fungus, viral, with bronch
      # Vent
         - ARDS, low tidal volume ventilation
 NEUTROPENIA
           Currently afebrile, and hemodynamically stable
           Remains on fungal prophylaxis, and acyclovir for herpetic
   mucocytis
    # + blood cx's and sputum cx--continue vanco aztreonam, follow cx's
   data, hold on picc removal pending cx results, low threshold for
   pulling line if spikes, hypotensive
   > ARF- likely tubular damage from atra vs atn, improved from peak but
   BUN/Cr increasing with diuresis, continues with good u/o and nice
   response to diuresis
   > Hypernatremia--free water
   > APML with atra syndrome and dic
continue fluconazole per transplant
   service
           decadron for atra syndrome, holding atra per onc, daily tumor
   lysis labs--follow uric acid level though unable to tolerate po
   allopurinal
           Following dic labs [**Hospital1 **] and transfusing as noted above
   >HTN--improved control with hydral and captopril, continue afterload
   reduction and consider BB pending  cards input
   >Pain
fent/versed
   Pt otherwise with resolving transaminitis and prior negative RUQ and
   hep serologies
   ICU Care
   Nutrition:
   Comments: NPO for bronch then starting tf's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2173-02-17 07:24:00 Physician Resident Progress Note
Chief Complaint: APML
   24 Hour Events:
 BRONCHOSCOPY - At [**2173-2-16**] 03:02 PM
   -- patient seen by cardiology, felt concern about patients renal fxn,
   wanted to d/c ACE, use nitropaste, as possibly low dose BB to decrease
   sympothetic activity
   -- heme onc feel very much consistent w/ chemo toxicity acutely
   induced.
   -- patient had bronchoscopy without difficulty, washings not overly
   hemmorhagic from aveoli
   -- s/p 2 units plts, 1 u pRBCs
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-16**] 09:00 AM
   Vancomycin - [**2173-2-16**] 08:00 PM
   Acyclovir - [**2173-2-16**] 08:00 PM
   Aztreonam - [**2173-2-17**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-16**] 08:00 AM
   Furosemide (Lasix) - [**2173-2-16**] 04:33 PM
   Hydralazine - [**2173-2-16**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2173-2-16**] 11:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 97 (92 - 114) bpm
   BP: 136/73(93) {92/56(69) - 140/76(95)} mmHg
   RR: 14 (7 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  4,046 mL
                                                                  1,671 mL
   PO:
           TF:
                                                                    740 mL
                                                                    357 mL
   IVF:
                                                                  2,123 mL
                                                                    453 mL
   Blood products:
                                                                    658 mL
                                                                    361 mL
   Total out:
                                                                  2,610 mL
                                                                    500 mL
   Urine:
                                                                  2,610 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                  1,171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.41/48/111/28/5
   Ve: 6.6 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, blood in
   back of OP, small white lesion ROM
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   8.8 g/dL
   169 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.3 mEq/L
   72 mg/dL
   110 mEq/L
   149 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-15**]  11:43 PM
                             [**2173-2-16**]  04:06 AM
                             [**2173-2-16**]  04:26 AM
                             [**2173-2-16**]  07:35 AM
                             [**2173-2-16**]  11:53 AM
                             [**2173-2-16**]  03:29 PM
                             [**2173-2-16**]  06:05 PM
                             [**2173-2-16**]  06:22 PM
                             [**2173-2-17**]  03:25 AM
                             [**2173-2-17**]  03:59 AM
   WBC
   0.1
   0.1
   Hct
   23.4
   28.0
   25.5
   Plt
   39
   54
   34
   74
   Cr
   1.4
   1.3
   1.4
   TropT
   0.05
   0.04
   TCO2
   32
   32
   30
   31
   Glucose
   162
   142
   156
   191
   169
   Other labs: PT / PTT / INR:14.5/27.4/1.3, CK / CKMB /
   Troponin-T:30/2/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:525 mg/dL, Lactic Acid:1.8 mmol/L, LDH:400 IU/L, Ca++:7.1
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML receiving [**Hospital 1322**] transferred to [**Hospital Unit Name 44**] w/
   hemopytsis and new respiratory requirement which as been worsening.
   1) Hemoptysis:  Differnetial includes ATRA-induced pulmonary
   hemorrhage, vs. DAH in setting of DIC vs HSV pneumonitis vs. other
   infectious etiology w/ neutrapenia. Respiratory was tenuous, w/
   increased O2 requrment, now intubated.
       - IP will perform rigid bronch [**2-17**], BAL sample lost, never
   processed by micro
        - cont empiric treatment for herpetic mucosytis w/ acyclovir,
   started [**2-13**]
        - continue steroids for ATRA at 10mg IV BID
        - now completed levoflox tx for atypical coverage
        - b/c BCX showed gram + cocci, started vanc/azeotrnam, Day 3
        - patient w/ evidence of smoldering DIC, bleeding has improved w/
   more strigent plt requirments.  Transfuse to maintain plt > 50, INR <
   1.5, fibrinogen > 100
   -          follow serial DIC and CBC labs
   -          fluconazole proph, started [**2-13**]
   2)     Hypoxia:  Unclear if this is related to hemoptytis or separate
   etiology.  TTE now showing severe global systolic dysfunction, believed
   secondary to chemotherapy.  BNP > 70,000.  Acute CHF likely [**1-16**]
   idarubicin.
   -   f/u cards recs
   -   diurese as tolerated, will start lasix gtt and can add diuril as
   needed for goal of output -500cc for the day
   -    concentrate meds
   #)  Hypernatremia
 hypervolemic v euvolemic, could have reset osmostat
   v central diabetes inspidus v irregularities in fluid balance [**1-16**] to
   fluid administration and diuresis
   -          continue free water restriction
   -          urine lytes
   3) APML, worsening neutrapenia nad respiratoyr decompensation.  Believe
   that chemo induced cardiac toxicity to blame.   Has received 12 days of
   ATRA.  Will discuss future plan w/ BMT service.
   - f/u recs, may possibly restart ATRA
   4)  HTN:  was on labatolol, now d/c
d, ? of whether there is any
   benefit to BB in this setting, in acute CHF.  Started on IV hydral and
   ACE for BP control will good effect.  Per cards, have now d/
d ACE per
   cards.  Currently on hydral and nitropaste.
   5) ARF:  improved from peak, at the time was believed due to tubular
   damage from ATRA.  Continue to diurese and monitor Cr.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-16**] 11:30 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2173-02-17 11:32:00 Physician Attending Progress Note
Chief Complaint: hemoptysis, resp failure, chf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  60 yo F with APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, systolic CHF, HAP
   24 Hour Events:
 BRONCHOSCOPY - At [**2173-2-16**] 03:02 PM--no active bleeding, clot in
   central airways
   cards c/s--d/c'd ace-I, started nitro past
   transfused plt and prbcs
   History obtained from hosue staff
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-16**] 08:00 PM
   Aztreonam - [**2173-2-17**] 12:00 AM
   Fluconazole - [**2173-2-17**] 07:35 AM
   Acyclovir - [**2173-2-17**] 09:00 AM
   Infusions:
   Fentanyl - 225 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-16**] 04:33 PM
   Hydralazine - [**2173-2-16**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2173-2-16**] 11:35 PM
   Pantoprazole (Protonix) - [**2173-2-17**] 08:30 AM
   Other medications:
   pre [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-17**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 106 (92 - 114) bpm
   BP: 120/62(78) {92/60(74) - 140/76(95)} mmHg
   RR: 21 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  4,046 mL
                                                                  2,396 mL
   PO:
           TF:
                                                                    740 mL
                                                                    556 mL
   IVF:
                                                                  2,123 mL
                                                                    900 mL
   Blood products:
                                                                    658 mL
                                                                    361 mL
   Total out:
                                                                  2,610 mL
                                                                  1,000 mL
   Urine:
                                                                  2,610 mL
                                                                    810 mL
   NG:
   190 mL
   Stool:
   Drains:
   Balance:
                                                                  1,436 mL
                                                                  1,396 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.41/48/111/28/5
   Ve: 5.6 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   ) scattered wheeze, rhoncorous
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Responds to: Not assessed, Oriented (to):
   intubated, Movement: Non -purposeful, Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   74 K/uL
   169 mg/dL
   1.4 mg/dL
   28 mEq/L
   3.3 mEq/L
   72 mg/dL
   110 mEq/L
   149 mEq/L
   25.5 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-15**]  11:43 PM
                             [**2173-2-16**]  04:06 AM
                             [**2173-2-16**]  04:26 AM
                             [**2173-2-16**]  07:35 AM
                             [**2173-2-16**]  11:53 AM
                             [**2173-2-16**]  03:29 PM
                             [**2173-2-16**]  06:05 PM
                             [**2173-2-16**]  06:22 PM
                             [**2173-2-17**]  03:25 AM
                             [**2173-2-17**]  03:59 AM
   WBC
   0.1
   0.1
   Hct
   23.4
   28.0
   25.5
   Plt
   39
   54
   34
   74
   Cr
   1.4
   1.3
   1.4
   TropT
   0.05
   0.04
   TCO2
   32
   32
   30
   31
   Glucose
   162
   142
   156
   191
   169
   Other labs: PT / PTT / INR:14.5/27.4/1.3, CK / CKMB /
   Troponin-T:30/2/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:525 mg/dL, Lactic Acid:1.8 mmol/L, LDH:400 IU/L, Ca++:7.1
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Imaging: et ok, og, worsening opacity  R > L, base and mid zone as well
   as apices
   Microbiology: blood--gpc--[**12-18**] cns
   sputum--pending gpc
   influenza a b neg
   bal fluid sent
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, systolic CHF, HAP
    Primary issues include:
 Respiratory failure:
     # HEMOPTYSIS
       - S/p bronch without active distal bleeding seen to suggest DAH,
   but with ongoing bloody secretions
             Clot and old blood in central airways, likely from
   coagulopathy, CHF
      - Continues on dexa for atra syndrome pending additional onc recs
       - Montioring heme labs and transfusing per onc paramenters, vit k
      #Systolic heart failure
         Global  LV dysfx on echo--? [**Doctor Last Name **] atra vs ido vs combo (synergy)
   as etiology
         continue nitro paste, hydral, diuresis 9start lasix ggt), BB as
   needed, f/u cards recs, check tfts
      # worsening R infiltrate --?Hospital Acquired Pneumonia verses clot
   --now with gpc in sputum
        - Continue Vancoand Aztreonam (PCN allergy) for empiric hap
   coverage
        - check additional cx
s for fungus, viral, sent with bronch
      # Vent
         - ARDS, low tidal volume ventilation, decrease rate and follow
   gas, doing well from oxygenation standpoint
           Continue vent support at this time, maximize volume/cardiac
   status
 NEUTROPENIA
           Currently afebrile, and hemodynamically stable
           Remains on fungal prophylaxis, and acyclovir for herpetic
   mucocytis
    # + blood cx's(CNS
)and sputum cx--continue vanco/aztreonam, low
   threshold for pulling line if spikes, hypotensive
   > ARF- likely tubular damage from atra vs atn, improved from peak but
   BUN/Cr increasing with diuresis, continues with good u/o and nice
   response to diuresis
   > Hypernatremia--free water
   > APML with atra syndrome and dic
continue fluconazole per transplant
   service
           decadron for atra syndrome, holding atra per onc though
   considering resuming treatment,
            daily tumor lysis labs
           Following dic/heme labs [**Hospital1 **] and transfusing as noted above
   >HTN--improved control with hydral and nitro, bb
   >Pain
fent/versed
   Pt otherwise with resolving transaminitis and prior negative RUQ and
   hep serologies
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-16**] 11:30 PM 50 mL/hour, bowel
   regimen
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  ppi
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2173-02-18 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2173-2-17**] 07:48 PM
   - new afib/tachycardia - lasix gtt stopped, metoprolol 5mg x2, 500cc
   bolus, no effect, dig loaded, now sinus and rate well-controlled
   - 2 units platelets
   - TSH & T3 low, free T4 low normal
   Pt comfortable on vent, not responding to commands
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-17**] 07:35 AM
   Acyclovir - [**2173-2-17**] 09:00 PM
   Vancomycin - [**2173-2-18**] 12:00 AM
   Aztreonam - [**2173-2-18**] 01:00 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-17**] 08:30 AM
   Metoprolol - [**2173-2-17**] 07:16 PM
   Other medications:
   Flowsheet Data as of  [**2173-2-18**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 86 (77 - 172) bpm
   BP: 140/68(92) {99/49(66) - 145/74(98)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  4,666 mL
                                                                  1,323 mL
   PO:
           TF:
                                                                    572 mL
   IVF:
                                                                  2,298 mL
                                                                    498 mL
   Blood products:
                                                                    636 mL
                                                                    575 mL
   Total out:
                                                                  2,750 mL
                                                                    820 mL
   Urine:
                                                                  2,560 mL
                                                                    820 mL
   NG:
                                                                    190 mL
   Stool:
   Drains:
   Balance:
                                                                  1,916 mL
                                                                    503 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 280
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.47/42/109/31/7
   Ve: 6.8 L/min
   PaO2 / FiO2: 273
   Physical Examination:
   GEN: intubated, sedated, not responding to commands
   CV: RRR no m/r/g
   RESP: rhonchi bilaterally predominant at bases, moving air well
   ABD: soft/NT/ND/NABS
   EXTR: 1+ pitting edema bilaterally
   Labs / Radiology
   CXR:
   FINDINGS:  In comparison with study of [**2-16**], there is even worsening of
   the
   diffuse bilateral pulmonary opacifications.  This could represent sever
   e
   pulmonary edema, though a supervening pneumonia and even ARDS could pro
   [**Last Name (un) 1400**]
   this appearance.
   74 K/uL
   7.9 g/dL
   156 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.2 mEq/L
   80 mg/dL
   111 mEq/L
   150 mEq/L
   23.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-16**]  06:05 PM
                             [**2173-2-16**]  06:22 PM
                             [**2173-2-17**]  03:25 AM
                             [**2173-2-17**]  03:59 AM
                             [**2173-2-17**]  03:38 PM
                             [**2173-2-17**]  07:27 PM
                             [**2173-2-17**]  09:06 PM
                             [**2173-2-18**]  01:01 AM
                             [**2173-2-18**]  05:50 AM
                             [**2173-2-18**]  06:15 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   28.0
   25.5
   27.3
   23.0
   Plt
   34
   74
   42
   44
   74
   Cr
   1.4
   1.4
   1.3
   TropT
   0.04
   TCO2
   30
   31
   28
   29
   31
   Glucose
   191
   169
   161
   156
   Other labs: PT / PTT / INR:13.9/27.4/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:525 mg/dL, Lactic Acid:1.4 mmol/L, LDH:400 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Urine eos negative
   Influenza DFA negative
   4rth set negative: CK 57 Troponin 0.04
  GRAM STAIN (Final [**2173-2-16**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2173-2-17**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Pending):
   VIRAL CULTURE (Preliminary):    No Virus isolated so far.
CMV negative
Resp sputum [**2-15**]: oral flora
Blood Cx from [**2-15**] has 2/4 bottles positive for coag negative staph
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  Pt oxygenating well on
   minimal vent settings, will get a Chest CT today to better evaluate
   lung process & role of pulm edema.
        - cont treatment for herpetic mucosytis with acyclovir (covering
   HSV PNA)
        - continue steroids for ATRA at 10mg IV BID
        - completed 5/5 days of levofloxacin for atypical coverage
        - Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam Day 4, Fluconazole prophylaxis, day 6
        - e/o low grade DIC, bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100
   - follow serial DIC and CBC labs
        - DFA negative, will d/c Tamiflu today
        - transfuse with 1u pRBCs today & monitor i/os  (will restart
   Lasix gtt with chlorthalidone to achieve goal neg 500cc)
   2) A.Fib: pt developed AFib with RVR overnight, did not respond to
   fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   - continue Digoxin, f/u am dig level
   -  will get f/u ECHO today
   3)  Hypernatremia
 appears to be intravascularly contracted with free
   water deficit.
   -continue TF with free water boluses, f/u pm lytes
   -f/u urine lytes (FE urea)
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   5)  HTN:  not well controlled currently, on Hydralazine & Nitropaste.
   Will f/u cards recs, holding on BB today
   - starting Isordil & continue Hydralazine today  (increase prn)
   - consider adding Coreg
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.
   - will admin 1u pRBCs with Lasix gtt to assist with diuresis
   - will f/u pm lytes
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **]
   ICU Care
   Nutrition: TF with free water boluses
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI
   VAP:  chlorhexidine
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Assessment & Plan addition:
   CHF: pt with pre chemo LVEF of 75% & recent ECHO showed globally
   depressed EF of 15% of unclear etiology, possible [**1-16**] sepsis vs acute
   chemo toxicity.  Apprec Cards recs, using nitrates & hydralazine for
   afterload reduction, diuresis with Lasix. However, pt developed a-fib
   with RVR overnight & didn
t respond to BB, got loaded with Digoxin.
   Currenty in NSR, elev BPs.
   - f/u card recs, getting f/u ECHO today
   - continue hydralazine, starting isordil in place of nitropaste
   - continue digoxin & lasix diuresis +/- chlorthalidone
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2173-2-18**] 20:22 ------

2173-02-18 10:38:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, chf
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 60 yo F with APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, systolic CHF, HAP
   24 Hour Events:
   A-FIB with RVR and b/l bp's overnight--lasix gtt stopped, metoprolol IV
   given, ivf bolused, dig loaded
reverted to NSR
   plt transfusion
 EKG - At [**2173-2-17**] 07:48 PM
   History obtained from house staff
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2173-2-17**] 09:00 PM
   Vancomycin - [**2173-2-18**] 12:00 AM
   Aztreonam - [**2173-2-18**] 08:00 AM
   Fluconazole - [**2173-2-18**] 09:00 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Metoprolol - [**2173-2-17**] 07:16 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-18**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 90 (77 - 172) bpm
   BP: 151/70(97) {99/49(66) - 151/74(98)} mmHg
   RR: 16 (8 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  4,666 mL
                                                                  1,721 mL
   PO:
           TF:
                                                                    572 mL
   IVF:
                                                                  2,298 mL
                                                                    746 mL
   Blood products:
                                                                    636 mL
                                                                    575 mL
   Total out:
                                                                  2,750 mL
                                                                  1,060 mL
   Urine:
                                                                  2,560 mL
                                                                  1,060 mL
   NG:
                                                                    190 mL
   Stool:
   Drains:
   Balance:
                                                                  1,916 mL
                                                                    661 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 280
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/42/109/31/7
   Ve: 6.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : , Wheezes : intermittent, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic:, Sedated on vent
   Labs / Radiology
   7.9 g/dL
   74 K/uL
   156 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.2 mEq/L
   80 mg/dL
   111 mEq/L
   150 mEq/L
   23.0 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-16**]  06:05 PM
                             [**2173-2-16**]  06:22 PM
                             [**2173-2-17**]  03:25 AM
                             [**2173-2-17**]  03:59 AM
                             [**2173-2-17**]  03:38 PM
                             [**2173-2-17**]  07:27 PM
                             [**2173-2-17**]  09:06 PM
                             [**2173-2-18**]  01:01 AM
                             [**2173-2-18**]  05:50 AM
                             [**2173-2-18**]  06:15 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   28.0
   25.5
   27.3
   23.0
   Plt
   34
   74
   42
   44
   74
   Cr
   1.4
   1.4
   1.3
   TropT
   0.04
   TCO2
   30
   31
   28
   29
   31
   Glucose
   191
   169
   161
   156
   Other labs: PT / PTT / INR:13.9/27.4/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:525 mg/dL, Lactic Acid:1.4 mmol/L, LDH:400 IU/L, Ca++:7.4
   mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: trop 0.04, ck's 50's
   tsh, ft3 low, ft4 nl
   Imaging: et ok,  picc ok, b/l diffuse infiltrates, small effusions
   without sig change
   Microbiology: [**2-16**] bronch samples lost
   [**2-15**]-bronch--oral flora gs 2+ gpc, no fungus on prelim, afb pending, no
   virus isolated to date
   [**1-18**] cns from blood cx [**2-15**]
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, systolic CHF, ? HAP
    Primary issues include:
 Respiratory failure:
     # HEMOPTYSIS
       - S/p bronch without active distal bleeding to suggest DAH
bloody
   secretions have decreased over past 24 hrs
         Clot and old blood in central airways, likely from coagulopathy,
   CHF
       - Montioring heme labs and transfusing per onc paramenters, vit k
      #Systolic heart failure
         Global  LV dysfx on echo
         Optimize afterload reduction
change nitro paste  to isordil,
   hydral, consider ace-i with careful montioring given renal failure
         Resume attempts at diuresis
 appears senstive to volume
   shifts,though difficult to fully eval intravascular status
               Transfuse colloid (prbc's), follow i/o
         Hold on coreg while optimizing afte load reduction,
         Repeat TTE to reasses for imrpovement
      # new a fib
now back in NSR
suspect related to severe LV dfx and
   sensitivity to vol shifts with aggressive diuresis
            dig, bb if needs for rate control
      # worsening infiltrates -
        - ?Hospital Acquired Pneumonia verses clot
         - repaeat noncontrast  chest ct today
        - continue empiric Vanco and Aztreonam (PCN allergy) for ? HAP,
   day 4
         - f/u  additional cx
s for fungus, viral, sent with bronch
        - d/c tamiflu
      # Vent
         - ARDS, low tidal volume ventilation, alkalotic but primarily
   from metabolic standpoint,  over breathing on 6 cc /kg TVs with good,
   doing well from oxygenation standpoint but in no palce to consider
   extubation, rsb1 260
           Continue vent support at this time, maximize volume/cardiac
   status
 NEUTROPENIA
           Currently afebrile and remains hemodynamically stable
           Remains on fungal prophylaxis, and acyclovir for herpetic
   mucocytis
   >  CNS bacteremia [**1-18**]
complete vanco course, surveillance cx
   > ARF- tubular damage from atra vs atn, improved from peak but BUN/Cr
   increasing with diuresis, continues with good u/o, add thiazide to
   lasix ggt for improved diuresis
   > Hypernatremia--free water, thiazide may help, intravascular dry and
   total body vol up
   > APML with atra syndrome and dic
continue fluconazole per transplant
   service
           decadron for atra syndrome, onc recs regarding plans to resume
   atra
           daily tumor lysis labs
           Following dic/heme labs [**Hospital1 **] and transfusing as noted above
   > HTN--improved control with hydral and nitro
   > Pain
fent/versed
   Pt otherwise with resolving transaminitis and prior negative RUQ and
   hep serologies, addtional onc recs regarding atra/steroids
   ICU Care
   Nutrition:
   Comments: tf's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2173-02-19 07:25:00 Physician Resident Progress Note
Chief Complaint: Urospesis
   24 Hour Events:
    -repeat Echo showed normal LVEF of 50%
   - d/c lasix gtt, having good uop
   - BP not well controlled, increased Isordil & started Metoprolol 25mg
   TID
   - had brief episodes of AFib with RVR & responded to 5mg IV lopressor
   - received 1upRBCs & 1uplts
   - CT chest showed: bloody pleural effusions & septal thickening/ground
   glass opacities
   - HSV+ oral palate swab
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-18**] 09:00 AM
   Acyclovir - [**2173-2-18**] 07:30 PM
   Vancomycin - [**2173-2-18**] 08:30 PM
   Aztreonam - [**2173-2-19**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-19**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 88 (82 - 124) bpm
   BP: 132/85(106) {129/66(89) - 174/91(119)} mmHg
   RR: 18 (7 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  3,914 mL
                                                                    715 mL
   PO:
           TF:
                                                                    119 mL
                                                                    206 mL
   IVF:
                                                                  1,708 mL
                                                                    363 mL
   Blood products:
                                                                  1,097 mL
                                                                    147 mL
   Total out:
                                                                  2,815 mL
                                                                    790 mL
   Urine:
                                                                  2,815 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,099 mL
                                                                    -75 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 259 (259 - 259) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 26 cmH2O/mL
   SpO2: 96%
   ABG: ///30/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious,
   No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   67 K/uL
   9.2 g/dL
   141 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.6 mEq/L
   74 mg/dL
   109 mEq/L
   145 mEq/L
   25.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-17**]  03:38 PM
                             [**2173-2-17**]  07:27 PM
                             [**2173-2-17**]  09:06 PM
                             [**2173-2-18**]  01:01 AM
                             [**2173-2-18**]  05:50 AM
                             [**2173-2-18**]  06:15 AM
                             [**2173-2-18**]  06:36 PM
                             [**2173-2-18**]  09:11 PM
                             [**2173-2-19**]  01:16 AM
                             [**2173-2-19**]  03:23 AM
   WBC
   0.1
   Hct
   27.3
   23.0
   27.0
   25.9
   Plt
   42
   44
   74
   42
   72
   67
   Cr
   1.4
   1.3
   1.1
   1.1
   TropT
   0.04
   TCO2
   28
   29
   31
   Glucose
   161
   156
   147
   141
   Other labs: PT / PTT / INR:13.8/26.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:505 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Imaging: CT of Chest:  .  Areas of consolidation in the dependent
   portion of the lungs with bloody
   pleural effusion characterized by the presence of a blood fluid layer.
   2.  Septal thickening and ground-glass opacities in both lungs could
   either be
   pulmonary edema or pulmonary hemorrhage or even infection.
   TTE:  Left ventricular wall thicknesses are normal. The left
   ventricular cavity size is normal. Overall left ventricular systolic
   function is low normal (LVEF 50%). Right ventricular chamber size and
   free wall motion are normal. The mitral valve appears structurally
   normal with trivial mitral regurgitation. There is no mitral valve
   prolapse. There is no pericardial effusion.
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  No evidence of DAH of BAL.
   Pt oxygenating well on minimal vent settings.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
        - cont treatment for herpetic mucosytis with acyclovir (covering
   HSV PNA)
        - continue steroids for ATRA at 10mg IV BID, will discuss w/ BMT
   when can be tapered
        - completed 5/5 days of levofloxacin for atypical coverage
        - Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam Day 5 for empiric coverage of HAP, Fluconazole
   prophylaxis, day 7
        - e/o low grade DIC, bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100
   - follow serial DIC and CBC labs
        - DFA negative, d/c
d tamilu
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE yesterday showed improved EF to
   70%.  As no longer in systolic HF, ok to start BB.
   2) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   - continue Digoxin, f/u am dig level
   3)  Hypernatremia
 improved.
   -  appears to be intravascularly contracted with free water deficit.
   -reduce free water boluses to minimize additional fluid intake and
   watch Na
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   5)  HTN:  not well controlled currently, on Hydralazine & isordil.
   Will
   - starting Isordil & continue Hydralazine today
   - started BB as no longer in acute systolic HF w/ improved BP
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.
   - given improved EF, held off on starting lasix gtt.  W/ improving
   cardicac funcition, antiicipate improved auto-diuresis.  Cr down today
   from 1.3 to 1.1.  Will limit quanitiity of fluid intake when possible.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-18**] 04:04 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2173-02-19 10:51:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:    60 yo F with APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, systolic CHF, ? HAP
   24 Hour Events:
 EKG - At [**2173-2-18**] 01:00 PM
 TRANSTHORACIC ECHO - At [**2173-2-18**] 02:00 PM
   repeat echo->-improved ef to 50%
     bb restarted for BP and HR control, lasix gtt d/c
   recurrent afib with rvr--repsonded to metop
   transfused  plt and prbc
   chest ct yesterday
   History obtained from house staff
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-18**] 08:30 PM
   Aztreonam - [**2173-2-19**] 12:00 AM
   Acyclovir - [**2173-2-19**] 08:00 AM
   Fluconazole - [**2173-2-19**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-19**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-19**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 76 (76 - 124) bpm
   BP: 126/61(76) {126/61(76) - 126/61(76)} mmHg
   RR: 16 (7 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
           Total In:
                                                                  3,914 mL
                                                                  1,294 mL
   PO:
           TF:
                                                                    119 mL
                                                                    340 mL
   IVF:
                                                                  1,708 mL
                                                                    687 mL
   Blood products:
                                                                  1,097 mL
                                                                    147 mL
   Total out:
                                                                  2,815 mL
                                                                    950 mL
   Urine:
                                                                  2,815 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,099 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 259 (259 - 259) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5--> 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.49/38/86.[**Numeric Identifier 96**]/30/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, dep edema
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: intubated, Movement: Non -purposeful, Sedated,
   Labs / Radiology
   9.2 g/dL
   67 K/uL
   141 mg/dL
   1.1 mg/dL (1.3-1.5)
   30 mEq/L
   3.6 mEq/L
   74 mg/dL (81)
   109 mEq/L
   145 mEq/L
   25.9 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-17**]  09:06 PM
                             [**2173-2-18**]  01:01 AM
                             [**2173-2-18**]  05:50 AM
                             [**2173-2-18**]  06:15 AM
                             [**2173-2-18**]  06:36 PM
                             [**2173-2-18**]  09:11 PM
                             [**2173-2-19**]  01:16 AM
                             [**2173-2-19**]  03:23 AM
                             [**2173-2-19**]  07:51 AM
                             [**2173-2-19**]  09:03 AM
   WBC
   0.1
   0.1
   Hct
   23.0
   27.0
   25.9
   Plt
   44
   74
   42
   72
   67
   Cr
   1.3
   1.1
   1.1
   TCO2
   29
   31
   30
   30
   Glucose
   156
   147
   141
   Other labs: PT / PTT / INR:13.8/26.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:505 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:7.9 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Imaging: Chest ct yesterday
   1.  Areas of consolidation in the dependent portion of the lungs with m
   [**Last Name (un) **]
   likely hemorrhagic  pleural effusion characterized by high density.
   2. Septal thickening and ground-glass opacities in both lungs could be
   due to
   pulmonary edema (both cardiogenic and non-cardiogenic), pulmonary hemor
   rhage
   or  infection (less likely) .
   cxr:  r base/hemidiaphragm slightly imporved aeration, otherwise
   unchanged with b/l asd,  bases> upper zones,  l picc ok, et looks low
   Microbiology: no  new data
   Assessment and Plan:  60 yo F with APML s/p 12 days ATRA, course c/b
   febrile neutropenia, hypoxemia and pulmonary edema secondary to
   [**Doctor Last Name **]/TRALI/ verses leukostasis with ICU stay (treated w/ diuresis and
   NPPV), ATRA syndrome, and herpetic mucocytis in ICU with respiratory
   failure and hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
   Primary issues remains:
 Respiratory failure:
     # hemoptysis
       - S/p bronch without active distal bleeding to suggest DAH
         Clot and old blood in central airways, likely from
   coagulopathy/dic related, CHF, infection
still  sx old blood and clot
       - Montioring heme labs and transfusing per onc paramenters, vit k
      # pulm infiltrates and effusions
        - ? Hospital Acquired Pneumonia, clot and blood fluid level seen
   on cxr/ct
        - continue empiric Vanco and Aztreonam course (PCN allergy) for ?
   HAP, day 5
      -  do not feel that thoracentesis will be useful, suspect
   inflammatory process/chf resulted in effsuions with bleeding into
   effusions in setting of dic/thrombocytopenia, would repeat chest ct
   down line for comparison
      # Vent
   -          ARDS, continue low tidal volume ventilation, alkalotic but
   primarily from metabolic standpoint, over breathing
        doing well from oxygenation standpoint but in no place to consider
   extubation
         Continue vent support at this time, supportive care
   > Systolic heart failure
         Global  LV dysfx on prior  echo now improved on repeat--? [**1-16**]
   chemo/ infection
         holding on diuresis, controlling heart rate and bp
   > new a fib
BB and dig, back in NSR
   > HTN
hydral, isordil, and BB with improved control
 NEUTROPENIA
           Currently afebrile and remains hemodynamically stable
           Remains on fungal prophylaxis and acyclovir for herpetic
   mucocytis
   >  CNS bacteremia [**1-18**]
remains af, complete vanco course, surveillance
   cx
   > ARF- tubular damage from atra vs atn, cr improving, continues with
   good u/o
   > Hypernatremia--imrpoved with free water now off diuresis, continue to
   montior
   > APML with atra syndrome and dic
continue fluconazole amd ascyclovir
   for herpetic mucopsytiper transplant service
           f/u additonal onc recs regarding plans to resume atra and
   continuing steroids
           daily tumor lysis labs
           Following dic/heme labs [**Hospital1 **] and transfusing as noted above
   > Pain
fent/versed
   Pt otherwise with resolving transaminitis and prior negative RUQ and
   hep serologies, addtional onc recs regarding atra/steroids
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-18**] 04:04 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Comments: replace a-line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2173-02-19 16:58:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2173-02-20 07:54:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
   - decreased steroids from 10mg to 5mg, and will continue to taper.
   Will check [**Last Name (un) 45**]-stim as has been on steroids since [**2-2**]
   - multiple changes to cards regimen
   - Placed on pressure support, tolerated well, switched back to AC due
   to boarderline PO2
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-19**] 09:00 AM
   Vancomycin - [**2173-2-19**] 08:00 PM
   Acyclovir - [**2173-2-19**] 09:21 PM
   Aztreonam - [**2173-2-20**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-19**] 08:00 AM
   Insulin - Regular - [**2173-2-20**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-20**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 79 (74 - 95) bpm
   BP: 149/91(104) {126/58(76) - 149/91(105)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
             Total In:
                                                                  3,105 mL
                                                                    840 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    393 mL
   IVF:
                                                                  1,617 mL
                                                                    347 mL
   Blood products:
                                                                    147 mL
   Total out:
                                                                  2,180 mL
                                                                    660 mL
   Urine:
                                                                  2,180 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    925 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 390 (390 - 392) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.43/41/82.[**Numeric Identifier 96**]/28/2
   Ve: 6.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , Rhonchorous: ),
   coarse breath sounds on vent
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   31 K/uL
   9.9 g/dL
   185 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   78 mg/dL
   112 mEq/L
   147 mEq/L
   28.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-19**]  01:16 AM
                             [**2173-2-19**]  03:23 AM
                             [**2173-2-19**]  07:51 AM
                             [**2173-2-19**]  09:03 AM
                             [**2173-2-19**]  06:55 PM
                             [**2173-2-19**]  07:12 PM
                             [**2173-2-19**]  08:32 PM
                             [**2173-2-19**]  11:10 PM
                             [**2173-2-20**]  02:05 AM
                             [**2173-2-20**]  03:13 AM
   WBC
   0.1
   Hct
   25.9
   28.3
   29
   28.7
   Plt
   72
   67
   46
   31
   Cr
   1.1
   1.0
   TCO2
   30
   30
   26
   28
   28
   28
   Glucose
   141
   185
   Other labs: PT / PTT / INR:13.1/25.4/1.1, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:526 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  No evidence of DAH of BAL.
   Pt oxygenating well on minimal vent settings.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
        - cont treatment for herpetic mucosytis with acyclovir (covering
   HSV PNA)
        - continue steroids for ATRA at 10mg IV BID, will discuss w/ BMT
   when can be tapered
        - completed 5/5 days of levofloxacin for atypical coverage
        - Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam Day 5 for empiric coverage of HAP, Fluconazole
   prophylaxis, day 7
        - e/o low grade DIC, bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100
   - follow serial DIC and CBC labs
        - DFA negative, d/c
d tamilu
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE yesterday showed improved EF to
   70%.  As no longer in systolic HF, ok to start BB.
   2) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   - continue Digoxin, f/u am dig level
   3)  Hypernatremia
 improved.
   -  appears to be intravascularly contracted with free water deficit.
   -reduce free water boluses to minimize additional fluid intake and
   watch Na
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   5)  HTN:  not well controlled currently, on Hydralazine & isordil.
   Will
   - starting Isordil & continue Hydralazine today
   - started BB as no longer in acute systolic HF w/ improved BP
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.
   - given improved EF, held off on starting lasix gtt.  W/ improving
   cardicac funcition, antiicipate improved auto-diuresis.  Cr down today
   from 1.3 to 1.1.  Will limit quanitiity of fluid intake when possible.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-18**] 04:04 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-20**] 12:59 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2173-02-20 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Steroids reduced, ACTH stim test done.
   Cardiology - dig d/c's, started on sotalol, metoprolol changed to
   coreg.
   Put on PSV trial yesterday x 3 hrs then desaturated to low 90s.
   Tidal volume increased today to 500.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-19**] 09:00 AM
   Vancomycin - [**2173-2-19**] 08:00 PM
   Aztreonam - [**2173-2-20**] 12:00 AM
   Acyclovir - [**2173-2-20**] 08:51 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Insulin - Regular - [**2173-2-20**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-20**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 79 (78 - 95) bpm
   BP: 166/105(120) {137/73(88) - 166/105(120)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
             Total In:
                                                                  3,105 mL
                                                                  1,320 mL
   PO:
             TF:
                                                                  1,022 mL
                                                                    565 mL
   IVF:
                                                                  1,617 mL
                                                                    606 mL
   Blood products:
                                                                    147 mL
   Total out:
                                                                  2,180 mL
                                                                    860 mL
   Urine:
                                                                  2,180 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    925 mL
                                                                    460 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 390 (390 - 392) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: 7.43/41/82.[**Numeric Identifier 96**]/28/2 at 2am
   Ve: 6.7 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   31 K/uL
   185 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   78 mg/dL
   112 mEq/L
   147 mEq/L
   28.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-19**]  01:16 AM
                             [**2173-2-19**]  03:23 AM
                             [**2173-2-19**]  07:51 AM
                             [**2173-2-19**]  09:03 AM
                             [**2173-2-19**]  06:55 PM
                             [**2173-2-19**]  07:12 PM
                             [**2173-2-19**]  08:32 PM
                             [**2173-2-19**]  11:10 PM
                             [**2173-2-20**]  02:05 AM
                             [**2173-2-20**]  03:13 AM
   WBC
   0.1
   Hct
   25.9
   28.3
   29
   28.7
   Plt
   72
   67
   46
   31
   Cr
   1.1
   1.0
   TCO2
   30
   30
   26
   28
   28
   28
   Glucose
   141
   185
   Other labs: PT / PTT / INR:13.1/25.4/1.1, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:526 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: Ordered for platelet transfusion
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HEMOPTYSIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NEUTROPENIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
    60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
   Primary issues remains:
 Respiratory failure:
     # hemoptysis
       - S/p bronch without active distal bleeding to suggest DAH.  Clot
   and old blood in central airways, likely from coagulopathy/dic related,
   CHF, infection
still  sx old blood and clot
       - Montioring heme labs and transfusing per onc paramenters, vit k
      # pulm infiltrates and effusions
        - ? Hospital Acquired Pneumonia, clot and blood fluid level seen
   on cxr/ct
        - continue empiric Vanco and Aztreonam course (PCN allergy) for ?
   HAP
      -  do not feel that thoracentesis will be particularly useful,
   suspect inflammatory process/chf resulted in effusions with bleeding
   into effusions in setting of dic/thrombocytopenia, would repeat
   chest    ct  down line for comparison
      # Vent
   -     ARDS, continue low tidal volume ventilation, alkalotic but
   primarily from metabolic standpoint, over breathing
        doing well from oxygenation standpoint but in not ready for
   extubation.
         Repeat PS trial
   > Systolic heart failure
         Global  LV dysfx on prior  echo now improved on repeat--? [**1-16**]
   chemo/ infection
         holding on diuresis, controlling heart rate and bp
   > new a fib
BB and dig, back in NSR
   > HTN
hydral, isordil, and BB with improved control
     f/u with cardiology recs for any additional changes
 NEUTROPENIA
           Currently afebrile and remains hemodynamically stable
           Remains on fungal prophylaxis and acyclovir for herpetic
   mucocytis
   > Thrombocytopenia - being transfused. Goal to keep >50.
   >  CNS bacteremia [**1-18**]
remains af, complete vanco course, surveillance
   cx
   > ARF- tubular damage from atra vs atn, cr improving, continues with
   good u/o, creat at 1.0 today (peaked at 1.5)
   > Hypernatremia--improved overall but Na 147 today, continue to
   monitor. Increase free water
   > APML with ? atra syndrome and dic
continue fluconazole amd acyclovir
   for herpetic mucocytis per transplant service
           f/u additonal onc recs regarding plans to resume atra
           on steroid taper
 can d/c prednisone per Dr [**Last Name (STitle) 923**]
           daily tumor lysis labs
           Following dic/heme labs [**Hospital1 **] and transfusing as noted above
   > Pain
fent/versed
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-20**] 12:59 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-15**] 12:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Met with husband and
   updated him on current issues and plan.
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2173-02-21 07:46:00 Physician Resident Progress Note
Chief Complaint: Hemoptysis
   24 Hour Events:
 ARTERIAL LINE - START [**2173-2-20**] 07:14 PM
   - steroid taper, at 5mg, can d/c today per BMT attg
   - [**Last Name (un) 45**] stim re-ordered
   - lost A-line, replaced
   - did well on pressure support trial
   - abdomen more distended, no BM's, bowel regimen increased, lactulose
   added
   - OGT placed as still had NGT, XR confusing, radiology paged re tube,
   no reply
   - Hypertensive to 180s, doubled  carvedilol and valsartan with no
   response
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-19**] 09:00 AM
   Vancomycin - [**2173-2-20**] 08:06 PM
   Acyclovir - [**2173-2-20**] 09:00 PM
   Aztreonam - [**2173-2-21**] 12:02 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-20**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-21**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 70 (70 - 91) bpm
   BP: 176/91(121) {165/83(111) - 200/110(143)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
             Total In:
                                                                  3,358 mL
                                                                    863 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    399 mL
   IVF:
                                                                  1,518 mL
                                                                    314 mL
   Blood products:
                                                                    158 mL
   Total out:
                                                                  3,175 mL
                                                                  1,050 mL
   Urine:
                                                                  3,175 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    183 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 330 (312 - 363) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.46/37/95.[**Numeric Identifier 96**]/25/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , Rhonchorous: L>R)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended,
   increasing abdominal girth
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   33 K/uL
   11.0 g/dL
   197 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   71 mg/dL
   112 mEq/L
   149 mEq/L
   32.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-19**]  06:55 PM
                             [**2173-2-19**]  07:12 PM
                             [**2173-2-19**]  08:32 PM
                             [**2173-2-19**]  11:10 PM
                             [**2173-2-20**]  02:05 AM
                             [**2173-2-20**]  03:13 AM
                             [**2173-2-20**]  04:08 PM
                             [**2173-2-20**]  08:25 PM
                             [**2173-2-21**]  04:50 AM
                             [**2173-2-21**]  05:33 AM
   WBC
   0.1
   0.1
   Hct
   28.3
   29
   28.7
   26.4
   32.7
   Plt
   46
   31
   52
   33
   Cr
   1.0
   0.9
   0.8
   TCO2
   26
   28
   28
   28
   28
   27
   Glucose
   185
   182
   197
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:526 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   .
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  No evidence of DAH of BAL.
   Pt oxygenating well on minimal vent settings.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA)
   -  continue steroids for ATRA at 5mg IV, can d/c tomorrow per BMT,
   needs [**Last Name (un) 45**] stim
   -  completed 5/5 days of levofloxacin for atypical coverage
   -   Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam Day 6 for empiric coverage of HAP, Fluconazole
   prophylaxis, day 7
   - e/o low grade DIC, bleeding improved with maintaining plt > 50, INR <
   1.5, fibrinogen > 100
   - cont Pressure support trial, wean PEEP
   - pull ET tube back 1cm
   - goal I/O
 net 1L negative
   .
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE yesterday showed improved EF to
   70%.  As no longer in systolic HF.
   - Per cards, started on coreg and valsartan
   2) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   - increase free water boluses to 250
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - taper steroids, can d/c tomorrow
   - transfuse 1 u platelets
   5)  HTN:  not well controlled currently, d/c
d Hydralazine & isordil.
   HF improving.  Pressures persistenly elevated despite doubling doses of
   antihypertensive regimen, HTN likely due to volume status, needs
   aggressive diuresis
   - doubled dose of coreg and valsartan
   - goal I/O
 net 1L negative
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.
   - W/ improving cardicac funcition, antiicipate improved auto-diuresis.
   Cr down today to 1.0.
   - can change dosing back to normal, non-renal dosing.
   .
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **]
   .
   8) Constipation
 abdomen more distended today.  No bowel movements
   since admission to ICU.  Nothing per rectum while neutropenic.
   - added lactulose
   - KUB
   - consider adding reglan
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-20**] 11:56 PM 52.[**Telephone/Fax (5) 1476**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2173-02-21 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2173-2-20**] 07:14 PM
   aline and OG placed
   [**Last Name (un) 45**] stim - approp rise in cortisol
   PSV trial - tolerated 12 hrs
   hypertensive - meds chagned
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-19**] 09:00 AM
   Vancomycin - [**2173-2-20**] 08:06 PM
   Aztreonam - [**2173-2-21**] 12:02 AM
   Acyclovir - [**2173-2-21**] 07:43 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-20**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-21**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 76 (70 - 91) bpm
   BP: 189/95(129) {165/83(111) - 200/110(143)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
             Total In:
                                                                  3,358 mL
                                                                  1,203 mL
   PO:
             TF:
                                                                  1,253 mL
                                                                    533 mL
   IVF:
                                                                  1,518 mL
                                                                    470 mL
   Blood products:
                                                                    158 mL
   Total out:
                                                                  3,175 mL
                                                                  1,130 mL
   Urine:
                                                                  3,175 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    183 mL
                                                                     73 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 346 (312 - 365) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: 7.46/37/95.[**Numeric Identifier 96**]/25/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   33 K/uL
   197 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   71 mg/dL
   112 mEq/L
   149 mEq/L
   32.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-19**]  06:55 PM
                             [**2173-2-19**]  07:12 PM
                             [**2173-2-19**]  08:32 PM
                             [**2173-2-19**]  11:10 PM
                             [**2173-2-20**]  02:05 AM
                             [**2173-2-20**]  03:13 AM
                             [**2173-2-20**]  04:08 PM
                             [**2173-2-20**]  08:25 PM
                             [**2173-2-21**]  04:50 AM
                             [**2173-2-21**]  05:33 AM
   WBC
   0.1
   0.1
   Hct
   28.3
   29
   28.7
   26.4
   32.7
   Plt
   46
   31
   52
   33
   Cr
   1.0
   0.9
   0.8
   TCO2
   26
   28
   28
   28
   28
   27
   Glucose
   185
   182
   197
   Other labs: PT / PTT / INR:13.3/25.8/1.1, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:526 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HEMOPTYSIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NEUTROPENIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  No evidence of DAH of BAL.
   Pt oxygenating well on minimal vent settings.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA)
   -  continue steroids for ATRA at 5mg IV, can d/c tomorrow per BMT,
   needs [**Last Name (un) 45**] stim
   -  completed 5/5 days of levofloxacin for atypical coverage
   -   Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam Day 6 for empiric coverage of HAP, Fluconazole
   prophylaxis, day 7
   - e/o low grade DIC, bleeding improved with maintaining plt > 50, INR <
   1.5, fibrinogen > 100
   - Pressure support trial, goal 5-6 hours
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE yesterday showed improved EF to
   70%.  As no longer in systolic HF.
   - Per cards, started on coreg and valsartan
   3) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   - increase free water boluses to 150
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - taper steroids, can d/c tomorrow
   5)  HTN:  not well controlled currently, d/c
d Hydralazine & isordil.
   HF improving
   - per cards, coreg and valsartan
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.
   - W/ improving cardicac funcition, antiicipate improved auto-diuresis.
   Cr down today to 1.0.
   - can change dosing back to normal, non-renal dosing.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **]
   .
   8) Constipation
 abdomen more distended today.  No bowel movements
   since admission to ICU.
   - added lactulose
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-20**] 11:56 PM 52.[**Telephone/Fax (5) 1476**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   20 Gauge - [**2173-2-18**] 11:00 AM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-02-22 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerating weaning trials, resting on AC overnight
   - diuresing well with Lasix 80mg [**Hospital1 **]
   - started Hydralazine 75 mg TID, acheived better BP control
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Fluconazole - [**2173-2-19**] 09:00 AM
   Aztreonam - [**2173-2-21**] 12:02 AM
   Vancomycin - [**2173-2-21**] 08:08 PM
   Acyclovir - [**2173-2-21**] 09:00 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.4
   HR: 70 (65 - 86) bpm
   BP: 141/72(96) {129/70(88) - 194/106(140)} mmHg
   RR: 14 (14 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.4 kg (admission): 72.2 kg
             Total In:
                                                                  3,669 mL
                                                                  1,039 mL
   PO:
             TF:
                                                                  1,255 mL
                                                                    382 mL
   IVF:
                                                                  1,217 mL
                                                                    157 mL
   Blood products:
                                                                    297 mL
   Total out:
                                                                  4,660 mL
                                                                  1,480 mL
   Urine:
                                                                  4,660 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -991 mL
                                                                   -441 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 76 (76 - 375) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150
   PIP: 27 cmH2O
   SpO2: 98%
   ABG: 7.48/35/110/28/2
   Ve: 6.7 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, equal temp b/l
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   33 K/uL
   10.8 g/dL
   218 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   67 mg/dL
   107 mEq/L
   142 mEq/L
   31.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-20**]  02:05 AM
                             [**2173-2-20**]  03:13 AM
                             [**2173-2-20**]  04:08 PM
                             [**2173-2-20**]  08:25 PM
                             [**2173-2-21**]  04:50 AM
                             [**2173-2-21**]  05:33 AM
                             [**2173-2-21**]  12:53 PM
                             [**2173-2-21**]  01:10 PM
                             [**2173-2-21**]  05:54 PM
                             [**2173-2-22**]  03:44 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   28.7
   26.4
   32.7
   31.8
   Plt
   31
   52
   33
   69
   33
   Cr
   1.0
   0.9
   0.8
   0.8
   TCO2
   28
   28
   27
   28
   27
   Glucose
   185
   182
   197
   218
   Other labs: PT / PTT / INR:13.0/26.5/1.1, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:526 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Cortsol: 3.8  Cortsol: 16.4
   Imaging: FINDINGS:  There is a feeding tube and nasogastric tube in the
   stomach.  There
   is a nonspecific bowel gas pattern with a few mildly dilated gaseous
   filled
   colonic loops.  Air is seen within the rectum.  Bony structures are
   intact.
   There are no signs for free intra-abdominal air.
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   .
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  No evidence of DAH of BAL.
   Pt oxygenating well on minimal vent settings.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA) to complete 14 day course ([**9-28**])
   -  continue steroids for ATRA at 5mg IV, can d/c today.  Normal [**Last Name (un) 45**]
   stim
   -  completed 5/5 days of levofloxacin for atypical coverage
   -   Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam Day 7 for empiric coverage of HAP, Fluconazole
   prophylaxis, day 8
   - e/o low grade DIC, bleeding improved with maintaining plt > 20, INR <
   1.5, fibrinogen > 100
   - cont Pressure support trial, wean PEEP, likely extubation tomorrow
   - goal I/O
 net 0.5 to 1L negative
   .
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE yesterday showed improved EF to
   70%.  As no longer in systolic HF.
   - Per cards, started on coreg and valsartan.  Both doses increased
   2) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol, check QT
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   - increase free water boluses to 250
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - taper steroids, can d/c today
   - reduce plt threshold to 20
   5)  HTN:  not well controlled currently, d/c
d Hydralazine & isordil.
   HF improving.  Pressures became persistenly elevated despite doubling
   doses of antihypertensive regimen, HTN likely due to volume status,
   needs aggressive diuresis
   - doubled dose of coreg and valsartan
   - restarted hydral and responded well
   - goal I/O
 net 1L negative
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.  Now resolved
   - W/ improving cardicac funcition, antiicipate improved auto-diuresis.
   Cr down today to 0.8.
   - can change dosing back to normal, non-renal dosing.
   - continued diuresis
   .
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **] to complete 14 day course.
   .
   8) Constipation
 abdomen less distended today.  Had bowel movement
   yesterday.  Nothing per rectum while neutropenic.
   - added lactulose
   - consider adding reglan
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-21**] 10:45 PM 52.[**Telephone/Fax (5) 1476**]
   mL/hour
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-02-22 12:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
   24 Hour Events:
   Tolerating PS trials IPS 8-12 PEEP [**7-25**] x 12 hrs yesterday
   Overall negative 1 L / 24 hrs
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2173-2-21**] 12:02 AM
   Vancomycin - [**2173-2-21**] 08:08 PM
   Acyclovir - [**2173-2-22**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-22**] 12:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.3
   HR: 77 (65 - 86) bpm
   BP: 160/85(114) {129/68(88) - 194/106(140)} mmHg
   RR: 16 (14 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 72.2 kg
           Total In:
                                                                  3,669 mL
                                                                  2,018 mL
   PO:
           TF:
                                                                  1,255 mL
                                                                    638 mL
   IVF:
                                                                  1,217 mL
                                                                    455 mL
   Blood products:
                                                                    297 mL
                                                                    305 mL
   Total out:
                                                                  4,660 mL
                                                                  1,900 mL
   Urine:
                                                                  4,660 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -991 mL
                                                                    118 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 76 (76 - 375) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   [**Year (4 digits) 866**]: 150
   PIP: 32 cmH2O
   SpO2: 99%
   ABG: 7.48/35/110/28/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant-lat)
   Abdominal: Soft, Non-tender, slight distention
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   33 K/uL
   218 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   67 mg/dL
   107 mEq/L
   142 mEq/L
   31.8 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-20**]  02:05 AM
                             [**2173-2-20**]  03:13 AM
                             [**2173-2-20**]  04:08 PM
                             [**2173-2-20**]  08:25 PM
                             [**2173-2-21**]  04:50 AM
                             [**2173-2-21**]  05:33 AM
                             [**2173-2-21**]  12:53 PM
                             [**2173-2-21**]  01:10 PM
                             [**2173-2-21**]  05:54 PM
                             [**2173-2-22**]  03:44 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   28.7
   26.4
   32.7
   31.8
   Plt
   31
   52
   33
   69
   33
   Cr
   1.0
   0.9
   0.8
   0.8
   TCO2
   28
   28
   27
   28
   27
   Glucose
   185
   182
   197
   218
   Other labs: PT / PTT / INR:13.0/26.5/1.1, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/29, Alk Phos / T Bili:92/1.2,
   Fibrinogen:526 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL, LDH:400
   IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: BUN essentially unchanged
   [**Last Name (un) **] stim negative
   Imaging: CXR reviewed - little change since [**2-20**]. ETT 4 cm above carina
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
    1. Resp failure: tolerating PS trials, good [**Last Name (LF) 866**], [**First Name3 (LF) 178**] reduce sedation
   and wean further. Unclear etiology of resp failure. Bleeding seen
   during bronch but BAL not c/w DAH.  , likely from coagulopathy/dic
   related, CHF, infection
still  sx old blood and clot. Possible hospital
   acquired pneumonia. Keep overall negative, as this will help extubation
   2.  Hemoptysis - no active bleeding now
   3. ID: neutropenia, afeb. Continue empiric Vanco and Aztreonam course
   (PCN allergy) for ? HAP.  CNS bacteremia [**2-15**]
remains afeb, complete
   vanco course, surveillance cx
   4. CHF: lobal  LV dysfx on prior echo now improved on repeat--? [**1-16**]
   chemo/ infection.
   5. new a fib
on sotalol, back in NSR
   6.  HTN -  on hydralazine, valsartan 180, carvedilol 6.5 with improved
   control. Would diurese as volume likely playing significant role in HTN
   7. Thromobocytopenia - would not necessarily transfuse to keep > 50.
   Follow heme recs. No active bleeding
   8. Renal: ARF resolved. ? tubular damage from atra vs atn, cr improved,
   good u/o, creat at 0.8 today (peaked at 1.5)
   9.---------------- APML with ? atra syndrome and dic
continue
   fluconazole amd acyclovir for herpetic mucocytis per transplant service
           f/u additonal onc recs regarding plans to resume atra
           on steroid taper
 can d/c prednisone today per Dr [**Last Name (STitle) 923**]
           daily tumor lysis labs
           Following dic/heme labs [**Hospital1 **] and transfusing as noted above
           Heme to consider BM bx this week
   > Pain
fent/versed
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-21**] 10:45 PM 52.[**Telephone/Fax (5) 1476**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2173-02-23 07:13:00 Physician Resident Progress Note
Chief Complaint: Hemoptysis
   24 Hour Events:
 EKG - At [**2173-2-22**] 08:41 PM
   - On PS all yesterday and tolerated well, planned extubation this am
   - Sedation switched to propofol to facilitate extubation
   - Put on AC overnight, and switched to PS this AM ([**9-19**])
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-22**] 05:30 PM
   Vancomycin - [**2173-2-22**] 08:09 PM
   Aztreonam - [**2173-2-23**] 12:15 AM
   Acyclovir - [**2173-2-23**] 04:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-22**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-23**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 74 (70 - 84) bpm
   BP: 166/84(114) {135/68(90) - 183/97(131)} mmHg
   RR: 25 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 72.2 kg
             Total In:
                                                                  4,107 mL
                                                                    542 mL
   PO:
             TF:
                                                                  1,255 mL
                                                                      1 mL
   IVF:
                                                                  1,248 mL
                                                                    291 mL
   Blood products:
                                                                    305 mL
   Total out:
                                                                  4,660 mL
                                                                    750 mL
   Urine:
                                                                  4,660 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -553 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (0 - 412) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.55/33/80.[**Numeric Identifier 248**]/28/6
   Ve: 11.3 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   54 K/uL
   10.3 g/dL
   157 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   60 mg/dL
   105 mEq/L
   142 mEq/L
   29.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-21**]  01:10 PM
                             [**2173-2-21**]  05:54 PM
                             [**2173-2-22**]  03:44 AM
                             [**2173-2-22**]  02:23 PM
                             [**2173-2-22**]  02:35 PM
                             [**2173-2-22**]  05:05 PM
                             [**2173-2-22**]  06:42 PM
                             [**2173-2-22**]  10:47 PM
                             [**2173-2-23**]  03:42 AM
                             [**2173-2-23**]  06:28 AM
   WBC
   0.1
   0.1
   Hct
   31.8
   28.9
   29.7
   Plt
   33
   75
   54
   Cr
   0.8
   0.7
   0.7
   TCO2
   28
   27
   30
   31
   30
   30
   Glucose
   [**Telephone/Fax (3) 1518**]
   Other labs: PT / PTT / INR:13.8/27.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   .
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures prelim
   negative.  Sputum cultures pending.  IP performed bronch on[**2173-2-16**] but
   BAL sample lost, never processed by micro.  No evidence of DAH of BAL.
   Pt oxygenating well on minimal vent settings.  completed 5/5 days of
   levofloxacin for atypical coverage.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA) to complete 14 day course ([**9-28**])
   -  Normal [**Last Name (un) 45**] stim, steroids d/c
   -  Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam for empiric coverage of HAP
   -  fluconazole switched to caspo [**2-22**]
   -  e/o low grade DIC, bleeding improved with maintaining plt > 20, INR
   < 1.5, fibrinogen > 100
   - goal I/O
 1L negative- because of mixed metabolic and respiratory
   alkalosis, will try to remove bicarb with acetazolamide
   - will also increase sedation to try to slow respiratory rate
   - pt still having to be suctioned frequently and would likely not be
   able to tolerate extubation today
   - cont Pressure support trial, wean PEEP, likely extubation tomorrow
   .
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE yesterday showed improved EF to
   70%.  As no longer in systolic HF.
   - Per cards, started on coreg and valsartan.  Both doses increased
   #) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol, check QT
   #) Alkalemia
 mixed respiratory and metabolic picture
   - metabolic
 likely contraction [**1-16**] weeklong diuresis
   - respiratory
 pt tachypneic to 30s
   - will give acetazolamide and inrease sedation
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   - continue free water boluses to 250
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - reduce plt threshold to 20
   5)  HTN:  not well controlled currently, d/c
d Hydralazine & isordil.
   HF improving.  Pressures became persistenly elevated despite doubling
   doses of antihypertensive regimen, HTN likely due to volume status,
   needs aggressive diuresis
   - doubled dose of coreg and valsartan
   - restarted hydral and responded well
   - goal I/O
 net 1L negative
   6) ARF:  elevated BUN/Creatinine ratio with contraction alkalosis, pt
   appears intravascularly dry with extravascular overload.  Now resolved.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir 600mg
   [**Hospital1 **] to complete 14 day course.
   .
   8) Constipation
 abdomen less distended today.  Had bowel movement
   yesterday.  Nothing per rectum while neutropenic.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2173-02-23 11:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2173-2-22**] 08:41 PM
   Propofol started
   PS trials
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-22**] 05:30 PM
   Vancomycin - [**2173-2-22**] 08:09 PM
   Aztreonam - [**2173-2-23**] 12:15 AM
   Acyclovir - [**2173-2-23**] 04:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2173-2-22**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-23**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 82 (73 - 84) bpm
   BP: 160/80(109) {141/69(93) - 183/97(131)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 72.2 kg
             Total In:
                                                                  4,107 mL
                                                                    664 mL
   PO:
             TF:
                                                                  1,255 mL
                                                                      1 mL
   IVF:
                                                                  1,248 mL
                                                                    413 mL
   Blood products:
                                                                    305 mL
   Total out:
                                                                  4,660 mL
                                                                  1,100 mL
   Urine:
                                                                  4,660 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -553 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 390 (0 - 412) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.55/33/80.[**Numeric Identifier 248**]/28/6
   Ve: 8.9 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: sedated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant/lat, Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   54 K/uL
   157 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   60 mg/dL
   105 mEq/L
   142 mEq/L
   29.7 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-21**]  01:10 PM
                             [**2173-2-21**]  05:54 PM
                             [**2173-2-22**]  03:44 AM
                             [**2173-2-22**]  02:23 PM
                             [**2173-2-22**]  02:35 PM
                             [**2173-2-22**]  05:05 PM
                             [**2173-2-22**]  06:42 PM
                             [**2173-2-22**]  10:47 PM
                             [**2173-2-23**]  03:42 AM
                             [**2173-2-23**]  06:28 AM
   WBC
   0.1
   0.1
   Hct
   31.8
   28.9
   29.7
   Plt
   33
   75
   54
   Cr
   0.8
   0.7
   0.7
   TCO2
   28
   27
   30
   31
   30
   30
   Glucose
   [**Telephone/Fax (3) 1518**]
   Other labs: PT / PTT / INR:13.8/27.9/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60 yo F with APML s/p 12 days ATRA, course c/b febrile neutropenia,
   hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/ verses
   leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
    1. Resp failure: tolerating PS trials, good RSBI, but mixed resp and
   metab alkalosis. will increase sedation to reduce minute ventilation
   and treat with acetazolamide. Overall positive 9 L since admission but
   has been running negative past few days.
   Inititial cause of resp failure unknown. Bleeding seen during bronch
   but BAL not c/w DAH. Likely from coagulopathy/dic related, CHF,
   infection
still sx old blood and clot. Possible hospital acquired
   pneumonia. Keep even balance
    2.  Hemoptysis - no active bleeding now
   3. ID: neutropenia, afeb. On vancomycin and Aztreonam course (PCN
   allergy) for ? HAP.  CNS bacteremia [**2-15**]
remains afeb, complete vanco
   course, surveillance cx
s. Now on caspofungin per BMT and acyclovir for
   herpetic mucocytis
   4. CHF:g lobal  LV dysfx on prior echo now improved on repeat--? [**1-16**]
   chemo/ infection.
   5. new a fib
on sotalol, back in NSR
   6.  HTN -  on hydralazine, valsartan 180, carvedilol. Would keep even
   to negative, volume likely playing significant role in HTN. ? hyperaldo
   7. Thromobocytopenia - would not necessarily transfuse to keep > 50.
   Follow heme recs. No active bleeding
   8. Renal: ARF resolved. ? tubular damage from atra vs atn, cr improved,
   good u/o, creat at 0.8 today (peaked at 1.5)
   9. APML with ? atra syndrome and dic
f/u additonal onc recs regarding
   plans to resume atra. Completed steroid taper. Heme to consider BM bx
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2173-02-24 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - alkalemic - started on acetazolamide, sedation increased to try to
   slow respiratory rate from in the 30s
   - steroids d/c'd
   - continued thick yellow secreations mod amount
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-23**] 06:37 PM
   Vancomycin - [**2173-2-23**] 10:03 PM
   Aztreonam - [**2173-2-24**] 12:00 AM
   Acyclovir - [**2173-2-24**] 04:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2173-2-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-24**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 75 (68 - 85) bpm
   BP: 155/73(97) {103/52(66) - 160/80(109)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 72.2 kg
             Total In:
                                                                  3,331 mL
                                                                  1,341 mL
   PO:
             TF:
                                                                    904 mL
                                                                    362 mL
   IVF:
                                                                  1,567 mL
                                                                    479 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    600 mL
   Urine:
                                                                  2,300 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                    741 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 534 (341 - 669) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.52/31/174/24/3
   Ve: 12.5 L/min
   PaO2 / FiO2: 435
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: bruising and fullness of R cervical area
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, UE/LE
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   27 K/uL
   9.2 g/dL
   163 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.2 mEq/L
   55 mg/dL
   106 mEq/L
   136 mEq/L
   26.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-22**]  02:35 PM
                             [**2173-2-22**]  05:05 PM
                             [**2173-2-22**]  06:42 PM
                             [**2173-2-22**]  10:47 PM
                             [**2173-2-23**]  03:42 AM
                             [**2173-2-23**]  06:28 AM
                             [**2173-2-23**]  11:34 AM
                             [**2173-2-23**]  04:47 PM
                             [**2173-2-24**]  03:54 AM
                             [**2173-2-24**]  04:15 AM
   WBC
   0.1
   Hct
   29.7
   26.1
   Plt
   54
   27
   Cr
   0.7
   0.7
   0.8
   TCO2
   30
   31
   30
   30
   31
   30
   26
   Glucose
   194
   157
   163
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Imaging: ET tube is in standard position.  NG tube tip is out of view
   below the
   diaphragm.  Left PICC tip is in unchanged position at the cavoatrial
   junction.
   Small bilateral pleural effusions are greater on the left side.
   Cardiomediastinal contours are unchanged.  Moderate pulmonary edema is
   stable.
   Persistent left lower lobe retrocardiac opacity could represent
   atelectasis or
   pneumonia.  Right lower lobe opacities have improved.
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress now s/p intubation on
   [**2173-2-16**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures negative.    IP
   performed bronch on[**2173-2-16**] w/ BAL.  No evidence of DAH of BAL.  Pt
   oxygenating well on minimal vent settings.  completed 5/5 days of
   levofloxacin for atypical coverage.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA) to complete 14 day course ([**11-28**]).  Given evidence of continued
   oral ulcerations and significant oropharyngeal bleeding, will likely
   increase to systemic treatment doses and continue treatment while
   patient is neutrapenic.
   -  Normal [**Last Name (un) 45**] stim, steroids d/c
   -  Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam for empiric coverage of HAP.  Will continue given
   neutrapenia
   -  fluconazole switched to caspo [**2-22**] w/ + galactomannan.  Repeat
   galactomannan/glucan pending.
   -  e/o low grade DIC, bleeding improved with maintaining plt > 20, INR
   < 1.5, fibrinogen > 100
   - Would like to continue to diurese, but held off yesterday given
   worsening alkalosis.  Now strictly respiratory in etiology.  Will defer
   diuresis until extubated, then reassess acid/base status before
   deciding to proceed w/ lasix for diuresis.
   - increase sedation has decreased respiratory rate from 25 to 20
   - cont Pressure support trial, wean PEEP, likely extubation today
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE showed improved EF to 50%.  As
   no longer in systolic HF.
   - Per cards, started on coreg and valsartan and hyralazine.
   - Cards has signed off.
   #) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol, no prolonged QT.
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.
   - metabolic
 likely contraction [**1-16**] weeklong diuresis, now corrected
   w/ azetazolamide
   - respiratory
 pt tachypneic to 30s
   - will d/c azetazolamide, extubate patient, and reassess acid/base
   status
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   - continue free water boluses to 250
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   - cont nadir expected given timing/dosage of chemo per BMT
   5)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN likely due to volume status, needs
   aggressive diuresis.
   - doubled dose of coreg and valsartan.  Still hypertensive, will
   increase valsartan dose today.
   - restarted hydral and responded well, pressures elevated when switched
   to PO.  At max daily dose.
   - goal I/O even, but will push for diuresis after extubation and
   evaluation of acid/base status
   6) ARF:  elevated BUN/Creatinine ratio in setting of acute systolic HF,
   pt appears intravascularly dry with extravascular overload.  ArF now
   resolved.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir was
   dosed reduce to mucositis regimen.  Now with worsened oral lesions,
   will likely increase to systemic treatment dose and continue past 14
   day woindow.
   8) Constipation
 abdomen less distended today.  Had bowel movement
   yesterday.  Nothing per rectum while neutropenic.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-24**] 02:23 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2173-02-24 12:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Acetazolamid given for alkalosis
   Meds reviewed from [**Month (only) **]
   Patient unable to provide history: sedated
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-23**] 06:37 PM
   Vancomycin - [**2173-2-23**] 10:03 PM
   Aztreonam - [**2173-2-24**] 12:00 AM
   Acyclovir - [**2173-2-24**] 04:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2173-2-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-24**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 80 (68 - 87) bpm
   BP: 137/70(90) {103/52(66) - 169/85(114)} mmHg
   RR: 25 (17 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 72.2 kg
             Total In:
                                                                  3,331 mL
                                                                  1,978 mL
   PO:
             TF:
                                                                    904 mL
                                                                    671 mL
   IVF:
                                                                  1,567 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,150 mL
   Urine:
                                                                  2,300 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,031 mL
                                                                    828 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (341 - 669) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.52/31/174/24/3
   Ve: 13.1 L/min
   PaO2 / FiO2: 435
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : clear ant/lat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
 CXR reviewed, ETT ok, unchanged
   9.2 g/dL
   27 K/uL
   163 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.2 mEq/L
   55 mg/dL
   106 mEq/L
   136 mEq/L
   26.1 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-22**]  02:35 PM
                             [**2173-2-22**]  05:05 PM
                             [**2173-2-22**]  06:42 PM
                             [**2173-2-22**]  10:47 PM
                             [**2173-2-23**]  03:42 AM
                             [**2173-2-23**]  06:28 AM
                             [**2173-2-23**]  11:34 AM
                             [**2173-2-23**]  04:47 PM
                             [**2173-2-24**]  03:54 AM
                             [**2173-2-24**]  04:15 AM
   WBC
   0.1
   Hct
   29.7
   26.1
   Plt
   54
   27
   Cr
   0.7
   0.7
   0.8
   TCO2
   30
   31
   30
   30
   31
   30
   26
   Glucose
   194
   157
   163
   Other labs: PT / PTT / INR:13.5/27.8/1.2, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   60 yo F with new dx of APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
   1. Resp failure: intubated since [**2-16**], tolerating PS trials, good RSBI,
   met alk improved with acetazolamide. Continues to have some resp
   alkalosis. Overall positive since admission but has been running
   negative past few days.
   Inititial cause of resp failure unknown. Bleeding seen during bronch
   but BAL not c/w DAH. Likely from coagulopathy/dic related, CHF,
   infection
still sx old blood and clot. Will d/c sedation, check SBT and
   likely extubate.
   2.  Blood suctioned from mouth
 mucocytis on exam, swab positive for
   HSV. Min-mod brown secretions suctioned from ETT.
   3. ID: neutropenia, afeb. On vancomycin and aztreonam course (PCN
   allergy) for ? HAP.  CNS bacteremia [**2-15**]
remains afeb, complete vanco
   course, surveillance cx
s. Now on caspofungin per BMT and acyclovir for
   herpetic mucocytis
   4. CHF: global LV dysfx on prior echo now improved on repeat--? [**1-16**]
   chemo/ infection.
   5. A fib
on sotalol, back in NSR
   6.  HTN -  on hydralazine, valsartan 180, carvedilol. Would keep even
   to negative, volume likely playing significant role in HTN. ? hyperaldo
   7. Thromobocytopenia
 with active bleeding agree with transfusion to
   keep > 50
   8. Renal: ARF resolved. ? tubular damage from atra vs atn, cr improved,
   good u/o, creat at 0.8 today (peaked at 1.5)
   9. APML with ? atra syndrome and dic
f/u additonal onc recs regarding
   plans to resume atra. Completed steroid taper. Heme to consider BM bx
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2173-2-24**] 10:39 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-02-25 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - unable to place doboff
   - extubated, initially had difficulty clearing secretions but
   maintaining sats well
   - pt was c/o worsened SOB, received Lasix 80mg IV with good UOP, SOB
   improved
   - started morphine 2-4mg IV for mucositis pain
   - using Hydralazine & Lopressor IV for BP control (not taking any pos)
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-24**] 06:00 PM
   Vancomycin - [**2173-2-24**] 08:30 PM
   Aztreonam - [**2173-2-25**] 12:00 AM
   Acyclovir - [**2173-2-25**] 04:30 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2173-2-24**] 12:00 PM
   Pantoprazole (Protonix) - [**2173-2-24**] 08:30 PM
   Furosemide (Lasix) - [**2173-2-24**] 09:30 PM
   Hydralazine - [**2173-2-24**] 11:45 PM
   Lorazepam (Ativan) - [**2173-2-25**] 01:30 AM
   Metoprolol - [**2173-2-25**] 04:00 AM
   Morphine Sulfate - [**2173-2-25**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 86 (75 - 93) bpm
   BP: 140/60(82) {125/60(79) - 173/90(119)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.5 kg (admission): 72.2 kg
             Total In:
                                                                  3,239 mL
                                                                    320 mL
   PO:
             TF:
                                                                    704 mL
   IVF:
                                                                  1,760 mL
                                                                    320 mL
   Blood products:
                                                                    195 mL
   Total out:
                                                                  3,500 mL
                                                                  1,555 mL
   Urine:
                                                                  3,500 mL
                                                                  1,555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -261 mL
                                                                 -1,235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (391 - 451) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.51/34/122/24/4
   Ve: 11.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic, uncomfortable
   Head, Ears, Nose, Throat: Poor dentition, visualized uclers on buccal
   mucosa b/l.  [**Doctor Last Name **] molar necrotic tooth
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: w/ expiration R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, improved
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   30 K/uL
   8.5 g/dL
   97 mg/dL
   0.8 mg/dL
   24 mEq/L
   2.8 mEq/L
   45 mg/dL
   106 mEq/L
   141 mEq/L
   24.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-23**]  03:42 AM
                             [**2173-2-23**]  06:28 AM
                             [**2173-2-23**]  11:34 AM
                             [**2173-2-23**]  04:47 PM
                             [**2173-2-24**]  03:54 AM
                             [**2173-2-24**]  04:15 AM
                             [**2173-2-24**]  03:09 PM
                             [**2173-2-24**]  04:38 PM
                             [**2173-2-25**]  04:43 AM
                             [**2173-2-25**]  06:08 AM
   WBC
   0.1
   0.1
   Hct
   29.7
   26.1
   24.2
   Plt
   54
   27
   54
   30
   Cr
   0.7
   0.8
   0.8
   TCO2
   30
   31
   30
   26
   25
   28
   Glucose
   157
   163
   97
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Imaging: Mild interstitial edema unchanged since [**2-22**].  Mild
   cardiomegaly stable.
   Pleural effusions if any are minimal.  ET tube and nasogastric tube in
   standard placements.  No pneumothorax.  Left PIC catheter tip can be
   traced as
   far as the superior cavoatrial junction where it is beyond which it is
   indistinct.
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress intubation on [**2173-2-16**],
   now extubated on [**2-24**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures negative.    IP
   performed bronch on[**2173-2-16**] w/ BAL.  Was intubated in setting of worsened
   oxygentation, now extubated.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA). Now re-dosed to systemic levels.  Will continue past 14 day
   course give recurrent symptoms.
   -  Normal [**Last Name (un) 45**] stim, steroids d/c
   - completed 5/5 days of levofloxacin for atypical coverage.
   -  Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam for empiric coverage of HAP.  Will continue given
   neutrapenia
   -  fluconazole switched to caspo [**2-22**] w/ + galactomannan.  Repeat
   galactomannan/glucan pending.
   -  e/o low grade DIC, bleeding improved with maintaining plt > 50, INR
   < 1.5, fibrinogen > 100.  Increase plt threshold given oral bleeding.
   No longer w/ bloody secretions.
   - Would like to continue to diurese, but held off yesterday given
   worsening alkalosis.  Flash pulmonary edema after extubation, responded
   well to lasix.  Continue diuresis.
   - cont Pressure support trial, wean PEEP, likely extubation today
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE showed improved EF to 50%.  As
   no longer in systolic HF.
   - Per cards, started on coreg and valsartan and hyralazine.  Now on IV
   metoprolol and hydralazine as inable to tolerate Pos given oral pain.
   #) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol, no prolonged QT.  Holding sotalol
   given inability to tolerate PO.
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.  Continued respiratory alkalosis w/
   extubation.  Will give atavan/morphine for 3anxiety.
   - metabolic
 likely contraction [**1-16**] weeklong diuresis, now corrected
   w/ azetazolamide from pH 7.58.  now d/c
   - respiratory
 pt tachypneic to 30s
   - will d/c azetazolamide, extubate patient, and reassess acid/base
   status
   # Anemia:  Hct fall from 29.7 to 24 today, unclear source of bleeding.
   INR of 1.3.  Plt 30.  No longer w/ bloody oral secretions.  Will guiac
   stools and check PM HCT.
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   - continue free water boluses to 250
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   - cont nadir expected given timing/dosage of chemo per BMT
   5)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN likely due to volume status, needs
   aggressive diuresis.
   - doubled dose of coreg and valsartan.  Still hypertensive, will
   increase valsartan dose yesterday.
   - restarted hydral and responded well, pressures elevated when switched
   to PO.  At max daily dose.
   - goal I/O even, but will push for diuresis after extubation and
   evaluation of acid/base status
   - Now on IV hydral given oral pain.
   6) ARF:  elevated BUN/Creatinine ratio in setting of acute systolic HF,
   pt appears intravascularly dry with extravascular overload.  ArF now
   resolved.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir was
   dosed reduce to mucositis regimen.  Now with worsened oral lesions,
   increased systemic treatment dose and continue past 14 day woindow.
   8) Constipation
 abdomen less distended today.  Had bowel movement
   yesterday.  Nothing per rectum while neutropenic.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2173-02-25 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Yesterday, extubated.
   SOB last night treated with Lasix 40.
   Acycovir dose increased
   Transfused platelets due to oral bleeding
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-24**] 06:00 PM
   Vancomycin - [**2173-2-24**] 08:30 PM
   Aztreonam - [**2173-2-25**] 12:00 AM
   Acyclovir - [**2173-2-25**] 04:30 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2173-2-24**] 12:00 PM
   Pantoprazole (Protonix) - [**2173-2-24**] 08:30 PM
   Furosemide (Lasix) - [**2173-2-24**] 09:30 PM
   Lorazepam (Ativan) - [**2173-2-25**] 01:30 AM
   Metoprolol - [**2173-2-25**] 04:00 AM
   Morphine Sulfate - [**2173-2-25**] 04:30 AM
   Hydralazine - [**2173-2-25**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: lip pain
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: No(t) Joint pain
   Flowsheet Data as of  [**2173-2-25**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 91 (75 - 93) bpm
   BP: 148/68(93) {125/60(79) - 173/90(119)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
           Total In:
                                                                  3,239 mL
                                                                    660 mL
   PO:
           TF:
                                                                    704 mL
   IVF:
                                                                  1,760 mL
                                                                    460 mL
   Blood products:
                                                                    195 mL
                                                                    200 mL
   Total out:
                                                                  3,500 mL
                                                                  1,975 mL
   Urine:
                                                                  3,500 mL
                                                                  1,975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -261 mL
                                                                 -1,315 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (447 - 447) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.51/34/122/24/4
   Ve: 11.5 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Well nourished, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: buccal mucosal ulcers, hard palate white
   plaques
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   30 K/uL
   97 mg/dL
   0.8 mg/dL
   24 mEq/L
   2.8 mEq/L
   45 mg/dL
   106 mEq/L
   141 mEq/L
   24.2 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-23**]  03:42 AM
                             [**2173-2-23**]  06:28 AM
                             [**2173-2-23**]  11:34 AM
                             [**2173-2-23**]  04:47 PM
                             [**2173-2-24**]  03:54 AM
                             [**2173-2-24**]  04:15 AM
                             [**2173-2-24**]  03:09 PM
                             [**2173-2-24**]  04:38 PM
                             [**2173-2-25**]  04:43 AM
                             [**2173-2-25**]  06:08 AM
   WBC
   0.1
   0.1
   Hct
   29.7
   26.1
   24.2
   Plt
   54
   27
   54
   30
   Cr
   0.7
   0.8
   0.8
   TCO2
   30
   31
   30
   26
   25
   28
   Glucose
   157
   163
   97
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR reviewed personally - improved but RLL
   Assessment and Plan
   60 yo F with new dx of APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
   1. Resp failure: extubated without significant new symptoms. Tolerating
   O2 by nasal canula. Overall positive volume balance so would keep even
   to negative. Inititial cause of resp failure unknown.
   Bleeding seen during bronch but BAL not c/w DAH. Likely from
   coagulopathy/dic related, CHF, infection
still sx old blood and clot.
   Will d/c sedation, check SBT and likely extubate.
   2.  Oral bleeding resolved
 mucocytis on exam, swab positive for HSV.
   Keep plat >50 due to recent active bleeding. Discuss with BMT about
   resuming lower threshold.
   3. ID: neutropenia, afeb. On vancomycin, aztreonam course (PCN
   allergy).  On caspofungin per BMT and acyclovir for herpetic mucocytis.
   4. CHF: global LV dysfx on prior echo now improved on repeat
possibly
   due to chemo/ infection.
   5. A fib
on sotalol, back in NSR
   6.  HTN -  on hydralazine IV increased, valsartan increased,
   carvedilol. Would keep even to negative, volume likely playing
   significant role in HTN.
   7. Thromobocytopenia
 with active bleeding agree with transfusion to
   keep > 50
   8. Renal: ARF resolved. ? tubular damage from atra vs atn, cr improved,
   good u/o, creat at 0.8 today (peaked at 1.5)
   9. APML with ? atra syndrome and dic
f/u additonal onc recs regarding
   plans to resume atra. Completed steroid taper.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total critical care time spent: 36 minutes
   Patient is critically ill

2173-02-26 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Hct continues to fall, down to 21.7.  No obvious source of bleeding.
   No stool for guaic.  [**Month (only) 60**] be related to APML.  Transfused 2U PRBC
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-25**] 06:13 PM
   Vancomycin - [**2173-2-25**] 08:00 PM
   Aztreonam - [**2173-2-25**] 10:00 PM
   Acyclovir - [**2173-2-26**] 03:40 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2173-2-25**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: Chest pain
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria, Foley
   Flowsheet Data as of  [**2173-2-26**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 94 (83 - 108) bpm
   BP: 178/81(113) {135/57(80) - 183/85(120)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
           Total In:
                                                                  1,957 mL
                                                                    750 mL
   PO:
           TF:
   IVF:
                                                                  1,590 mL
                                                                    166 mL
   Blood products:
                                                                    367 mL
                                                                    583 mL
   Total out:
                                                                  2,915 mL
                                                                    310 mL
   Urine:
                                                                  2,915 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -958 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.54/29/81.[**Numeric Identifier 253**]/23/2
   Physical Examination
   General Appearance: No(t) No acute distress, Diaphoretic, Thick mucousy
   secretions pour of of mouth
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), congested BS anteriorally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, minimally interactive
   Labs / Radiology
   43 K/uL
   10.3 g/dL
   117 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.2 mEq/L
   37 mg/dL
   112 mEq/L
   143 mEq/L
   29.3 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-24**]  03:54 AM
                             [**2173-2-24**]  04:15 AM
                             [**2173-2-24**]  03:09 PM
                             [**2173-2-24**]  04:38 PM
                             [**2173-2-25**]  04:43 AM
                             [**2173-2-25**]  06:08 AM
                             [**2173-2-25**]  04:30 PM
                             [**2173-2-25**]  06:43 PM
                             [**2173-2-25**]  06:55 PM
                             [**2173-2-26**]  05:10 AM
   WBC
   0.1
   0.1
   0.1
   0.1
   Hct
   26.1
   24.2
   21.5
   21.2
   29.3
   Plt
   27
   54
   30
   64
   43
   Cr
   0.8
   0.8
   0.7
   0.6
   TCO2
   26
   25
   28
   26
   Glucose
   163
   97
   104
   117
   Other labs: PT / PTT / INR:15.6/34.2/1.4, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: IMPRESSION:  Slight improvement in interstitial edema.  New
   right lower lobe
   atelectasis.
   Assessment and Plan
   60 y/o F w/ newly diagnosed APML s/p 12 days of [**Hospital 1322**] transferred to
   [**Hospital Unit Name 44**] w/ hemopytsis and worsening resp distress intubation on [**2173-2-16**],
   now extubated on [**2-24**].
   1) Respiratory Failure: unclear if this is due to hemoptysis, pulm
   edema, ARDS, ATRA-induced pulmonary hemorrhage or atypical PNA in
   setting of neutropenia.  Fungal & Viral sputum cultures negative.    IP
   performed bronch on[**2173-2-16**] w/ BAL.  Was intubated in setting of worsened
   oxygentation, now extubated.
   -  CT unimformative, showing air-space disease as well as pleural
   effusions
   -  cont treatment for herpetic mucosytis with acyclovir (covering HSV
   PNA). Now re-dosed to systemic levels.  Will continue past 14 day
   course give recurrent symptoms.
   -  Normal [**Last Name (un) 45**] stim, steroids d/c
   - completed 5/5 days of levofloxacin for atypical coverage.
   -  Blood Cx was +2/4 bottles for coag neg staph, continue
   vanc/aztreonam for empiric coverage of HAP.  Will continue given
   neutrapenia
   -  fluconazole switched to caspo [**2-22**] w/ + galactomannan.  Repeat
   galactomannan/glucan pending.
   -  e/o low grade DIC, bleeding improved with maintaining plt > 50, INR
   < 1.5, fibrinogen > 100.  Increase plt threshold given oral bleeding.
   No longer w/ bloody secretions.
   - Patient was one L negative w/o diuresis.  While still has pleural
   edema on CXR, given alkalosis, will avoid diuresis so as to not
   exacerbate.
   - Patient is currently tachypnic.  Has alkalosis c/w respiratory
   alkalosis.  Unclear if increased respiratory drive is due to aniexty or
   response to heavy secretions.
   - CXR shows increased RLL consolidation.  Patient w/o fever and on
   broad spectrum abx.  Have sent for sputum culture, and will avoid
   increasing abx dosage at this time.  Thick secretions may be from a new
   infections process vs. drying from diuresis.
   2) Acute systolic heart failure:  EF fell from 70% to 10% acutly,
   belived to be chemo toxicity.  F/u TTE showed improved EF to 50%.  As
   no longer in systolic HF.
   - Per cards, started on coreg and valsartan and hyralazine.  Now on IV
   metoprolol and hydralazine as inable to tolerate Pos given oral pain.
   #) A.Fib: pt developed AFib with RVR earlier in week, did not respond
   to fluid boluses or BB.  Loaded with Digoxin & currently in NSR.
   Digoxin d/c
   - per cards, started on sotalol, no prolonged QT.  Holding sotalol
   given inability to tolerate PO.
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.  Continued respiratory alkalosis w/
   extubation.  Will give atavan/morphine for 3anxiety.
   - metabolic
 likely contraction [**1-16**] weeklong diuresis, now corrected
   w/ azetazolamide from pH 7.58.  now d/c
   - respiratory
 pt tachypneic to 30s
   # Anemia:  Hct fall from 29.7 to 24 today, unclear source of bleeding.
   INR of 1.3.  Plt 30.  No longer w/ bloody oral secretions.  Will guiac
   stools and check PM HCT.
   3)  Hypernatremia
  trended back up after free water boluses reduced.
   Improved w/ restarted boluses.  As no longer w/ NG tube, will hold
   boluses and follow serial Na levels.  Curently WNL.
   4) APML: s/p induction with 7+3 and Atra.  Pt with ongoing neutropenia
   and respiratory decompensation, new depressed EF of unknown etiology
   s/p 12 days of ATRA.  Some bleeding from oropharynx, DIC labs otherwise
   stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   - cont nadir expected given timing/dosage of chemo per BMT
   5)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN had been controlled prior on
   alternative regimen.  Have doubled hydralazine and still running SBP >
   170.  Seems that BP almost refractory to current treatment, and has hx
   of lifelong difficult to control BP.
    - restarted nitropaste which as worked previously.
   - continue hydralazine IV and lopressor
   - unable to give pO hydral or cogreg or valsartan given NPO status
   6) ARF:  elevated BUN/Creatinine ratio in setting of acute systolic
   HF.  ArF now resolved.
   7) HSV:  hard palate swabs positive for HSV, continue Acyclovir was
   dosed reduce to mucositis regimen.  Now with worsened oral lesions,
   increased systemic treatment dose and continue past 14 day woindow.
   Patient still unable to swallow.  Will discuss w/ BMP possibility of
   doppoff in immunocompromised patient w/ known herpetic mucositis.
   8) Constipation
 abdomen less distended today.  Had bowel movement
   yesterday.  Nothing per rectum while neutropenic.  Unable to take PO
   stool softeners.  Will try IV reglan.
   ICU Care
   Nutrition: NPO, will assess if NG tube okay w/ BMT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-02-26 10:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains hypertensive despite increased hydralazine 20mg q6h. Also on
   lopressor
   Hct trended down to 21.2.
   Transfused 2 units PRBC.
   No active bleeding.
   No significant resp complaints.
   Negative 1 L / 24 hrs
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-25**] 06:13 PM
   Acyclovir - [**2173-2-26**] 03:40 AM
   Aztreonam - [**2173-2-26**] 06:00 AM
   Vancomycin - [**2173-2-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2173-2-26**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2173-2-26**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 103 (83 - 108) bpm
   BP: 180/87(124) {135/57(80) - 183/87(124)} mmHg
   RR: 31 (17 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 74.2 kg (admission): 72.2 kg
           Total In:
                                                                  1,957 mL
                                                                  1,085 mL
   PO:
           TF:
   IVF:
                                                                  1,590 mL
                                                                    502 mL
   Blood products:
                                                                    367 mL
                                                                    583 mL
   Total out:
                                                                  2,915 mL
                                                                    580 mL
   Urine:
                                                                  2,915 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -958 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.54/27/95.[**Numeric Identifier 96**]/23/1
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds ant
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, lethargic
   Labs / Radiology
   10.3 g/dL
   43 K/uL
   117 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.2 mEq/L
   37 mg/dL
   112 mEq/L
   143 mEq/L
   29.3 %
   0.1 K/uL
        [image002.jpg]
                             [**2173-2-24**]  04:15 AM
                             [**2173-2-24**]  03:09 PM
                             [**2173-2-24**]  04:38 PM
                             [**2173-2-25**]  04:43 AM
                             [**2173-2-25**]  06:08 AM
                             [**2173-2-25**]  04:30 PM
                             [**2173-2-25**]  06:43 PM
                             [**2173-2-25**]  06:55 PM
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
   WBC
   0.1
   0.1
   0.1
   Hct
   24.2
   21.5
   21.2
   29.3
   Plt
   54
   30
   64
   43
   Cr
   0.8
   0.7
   0.6
   TCO2
   26
   25
   28
   26
   24
   Glucose
   97
   104
   117
   Other labs: PT / PTT / INR:15.6/34.2/1.4, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:39/16, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:231 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: CR improved- RLL consolidation with volume loss
   Assessment and Plan
   60 yo F with new dx of APML s/p 12 days ATRA, course c/b febrile
   neutropenia, hypoxemia and pulmonary edema secondary to [**Doctor Last Name **]/TRALI/
   verses leukostasis with ICU stay (treated w/ diuresis and NPPV), ATRA
   syndrome, and herpetic mucocytis in ICU with respiratory failure and
   hemoptysis [**1-16**] DIC, improved systolic CHF, ? HAP
    1. Resp issues: extubated, O2 by nasal canula. Overall negative volume
   balance. Still with resp alkalosis. RLL consolidation ? new pna. On
   vanc/aztreonam.
   Inititial cause of resp failure/ARDS unknown. Bleeding seen during
   bronch but BAL not c/w DAH. Likely from coagulopathy/dic related, CHF,
   infection
still sx old blood and clot.
   2.  Oral bleeding resolved
 mucocytis on exam, swab positive for HSV.
   Keep plat >50 due to recent active bleeding per BMT.
   3. ID: neutropenia, afeb. On vancomycin, aztreonam course (PCN
   allergy).  On caspofungin per BMT and acyclovir for herpetic mucocytis.
   4. CHF: global LV dysfx on prior echo now improved on repeat
possibly
   due to chemo/ viral infection.
   5. A fib
 on lopressor, back in NSR. Sotalol held.
   6.  HTN -  on hydralazine and lopressor IV. Not on PO meds. Would keep
   even to negative, anxiety and volume likely playing roles in HTN.
   Longstanding hx of HTN per husband. Renal ultrasound pending.
   7. Thromobocytopenia
 with active bleeding agree with prn transfusion
   to keep > 50
   8. Renal: ARF resolved. ? tubular damage from atra vs atn, cr improved,
   good u/o, creat at 0.8 today (peaked at 1.5)
   9. APML with ? atra syndrome and dic
f/u additonal onc recs regarding
   plans to resume atra. Completed steroid taper.
   10. FEN - may need [**Last Name (LF) 1597**], [**First Name3 (LF) 178**] discuss with BMT as unclear extent of
   her mucocytis, ? esophageal.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :keep in ICU
   Total time spent: 35 minutes
   Patient is critically ill

2173-02-27 08:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2173-2-26**] 04:26 PM
 BLOOD CULTURED - At [**2173-2-27**] 01:00 AM
   - restarted nitropaste
   - renal U/S negative for renal a stenosis
   - requested TPN rec's, should start TPN
   - ID consult - re-check B glucan, cx every line
   - EU U/S negative for DVT
   - plt transfusion x1
   - sputum cx sent
   - started on ativan
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-26**] 06:33 PM
   Vancomycin - [**2173-2-26**] 08:09 PM
   Acyclovir - [**2173-2-27**] 04:32 AM
   Aztreonam - [**2173-2-27**] 06:01 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2173-2-27**] 02:00 AM
   Metoprolol - [**2173-2-27**] 04:32 AM
   Other medications:
   Flowsheet Data as of  [**2173-2-27**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 99 (82 - 111) bpm
   BP: 163/76(109) {155/67(99) - 180/89(126)} mmHg
   RR: 35 (23 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  2,565 mL
                                                                    410 mL
   PO:
             TF:
   IVF:
                                                                  1,716 mL
                                                                    410 mL
   Blood products:
                                                                    849 mL
   Total out:
                                                                  1,345 mL
                                                                    335 mL
   Urine:
                                                                  1,345 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.53/28/117/22/2
   PaO2 / FiO2: 293
   Physical Examination
   GEN: NAD, congested breathing, no resp distress
   CV: RRR no m/r/g
   RESP: upper airway rhoncherous breathing, congestion, no w/r
   ABD: soft, NT, ND, [**Month (only) 38**] BS
   EXTR: 1+ pitting edema
   Labs / Radiology
   89 K/uL
   9.4 g/dL
   77 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   32 mg/dL
   112 mEq/L
   143 mEq/L
   26.6 %
   0.5 K/uL
        [image002.jpg]
                             [**2173-2-25**]  04:30 PM
                             [**2173-2-25**]  06:43 PM
                             [**2173-2-25**]  06:55 PM
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
   WBC
   0.1
   0.1
   0.2
   0.5
   Hct
   21.5
   21.2
   29.3
   28.0
   26.6
   Plt
   64
   43
   87
   97
   89
   Cr
   0.7
   0.6
   0.6
   0.5
   TCO2
   26
   24
   24
   24
   Glucose
   104
   117
   118
   77
   Other labs: PT / PTT / INR:15.3/29.3/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:25/17, Alk Phos / T Bili:118/1.9,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:564 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8
   g/dL, LDH:312 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Imaging: LUE Doppler [**2-26**]
   1.  No evidence of DVT in the left upper extremity.
   2.  Left PICC in place extending proximally from the left basilic vein,
   without evidence of catheter-associated thrombus.
   Renal U/S [**2-26**]:
   IMPRESSION:
   1.  No definite evidence of renal artery stenosis.  Normal main renal
   artery
   and venous waveforms bilaterally.
   2.  Trace ascites around the liver, and in Morison's pouch.
Sputum [**2-26**]: [**2173-2-26**] 7:03 am SPUTUM     Site: EXPECTORATED
      Source: Expectorated.
   GRAM STAIN (Final [**2173-2-26**]):
      <10 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Pending):
      FUNGAL CULTURE (Pending):
   Assessment and Plan
   60 y/o F w/ APML s/p 12 days of [**Hospital 1322**] transferred to [**Hospital Unit Name 44**] w/ hemopytsis
   and worsening resp distress s/p intubation on [**2173-2-16**], extubated on
   [**2-24**].  Now with low grade fevers.
   #) Respiratory Failure:  resolving, pt has ongoing respiratory
   alkalosis and mucositis causing significant upper airway secretions. Pt
   initially p/w hemoptysis, pulm edema & ARDS of unknown etiology in
   setting of neutropenia.  Fungal & Viral sputum cultures negative, blood
   Cx NGTD.  IP performed bronch on[**2173-2-16**] w/ BAL.  Pt was successfully
   extubated on [**2-24**].
   -  continue empiric Abx with Vanc/Aztreonam/Caspo/Acyclovir given
   ongoing neutropenia & low grade fevers
   -  continue Rx for herpetic mucosytis with acyclovir covering HSV PNA,
   14 day course give recurrent symptoms.
   -  completed 5/5 days of levofloxacin for atypical coverage.
   -  Blood Cx from [**2-15**] +2/4 bottles for coag neg staph (likely oral
   flora)
   -  fluconazole switched to caspo on [**2-22**] due to + galactomannan.
   Repeat galactomannan/glucan pending.
   -  f/u blood/urine/sputum Cx
   -  e/o low grade DIC,oral bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100
   -  tachypneic & alkalosis w/ respiratory alkalosis.  Unclear if inc
   resp drive is due to aniexty or response to secretions.
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.  Continued respiratory alkalosis w/
   extubation.
   -Continue viscous lidocaine, magic mouthwash, ativan, morphine for
   pain/anxiety.
   #) Abn LFTs: LDH/Alk Phos/Tbili elevated, hct stable.  Repeat LFTs
   revealed T.bili trending down & hemolysis labs show stable haptoglobin
   & no significant schistocytes on smear.  No RUQ tenderness on exam
   - f/u induced sputum to r/o PCP
   [**Name Initial (PRE) **] hct essentially stable,
   #) Acute systolic heart failure: echo on adm to ICU showed an EF drop
   from 70% to 10%, believed to be [**1-16**] chemo toxicity.  F/u TTE showed
   improved EF of 50%.  Per cards, started on coreg and valsartan and
   hyralazine.
   - currently NPO [**1-16**] mucositis, on IV metoprolol, hydralazine &
   nitropaste with poor BP control
   #) APML: Day 23 s/p induction with 7+3 and Atra, still neutropenic and
   having low grade fevers. Still mild bleeding from oropharynx, better
   with higher plt transfusion goals, DIC labs otherwise stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   - cont nadir expected given timing/dosage of chemo per BMT
   #)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN had been controlled prior on
   alternative regimen.  Seems that BP almost refractory to current
   treatment, pt has hx of lifelong difficult to control BP.
   - increase hydralazine to 40mg IV q6hrs and lopressor 15mg q8hrs with
   nitropaste
   - unable to give pO hydral or cogreg or valsartan given NPO status
    #) HSV:  hard palate swabs positive for HSV, increased Acyclovir to
   treatment dose, pt still unable to swallow.  Continue lidocaine, Magic
   Mouthwash, Morphine, Ativan prn.
   - advanced ice chips today, tolerated well
   - will talk to nutrition in am regarding TPN recs
   #) Constipation
 nothing per rectum while neutropenic.  Unable to take
   PO stool softeners.
   - started IV reglan [**2-26**]
   - pt having flatus, abd benign
   ICU Care
   Nutrition: Ice chips for now, nutrition consult in am
   Glycemic Control:  none
   Lines: PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Resp failure: will attempt to get induced sputum to r/o PCP [**Name Initial (PRE) 1645**].
   BP & peripheral edema: will attempt continued diuresis with Lasix, goal
   i/os neg 500/day
   ------ Protected Section Addendum Entered By:[**Name (NI) 1160**] [**Last Name (NamePattern1) 1161**], MD
   on:[**2173-2-27**] 19:55 ------

2173-02-27 13:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   24 Hour Events:
 ULTRASOUND - At [**2173-2-26**] 04:26 PM: neg for DVT
   Renal neg u/s negative for stenosis
 BLOOD CULTURED - At [**2173-2-27**] 01:00 AM
   History obtained from [**Hospital 85**] Medical records, ICU team
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-26**] 06:33 PM
   Aztreonam - [**2173-2-27**] 06:01 AM
   Vancomycin - [**2173-2-27**] 08:00 AM
   Acyclovir - [**2173-2-27**] 12:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2173-2-27**] 08:00 AM
   Metoprolol - [**2173-2-27**] 10:00 AM
   Other medications:
   RISS, nitropast, metoprolol iv, hydralazine, not getting po meds
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-2-27**] 01:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 95 (84 - 111) bpm
   BP: 193/98(134) {155/67(99) - 193/98(134)} mmHg
   RR: 35 (24 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  2,565 mL
                                                                    815 mL
   PO:
             TF:
   IVF:
                                                                  1,716 mL
                                                                    815 mL
   Blood products:
                                                                    849 mL
   Total out:
                                                                  1,345 mL
                                                                    525 mL
   Urine:
                                                                  1,345 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,220 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.53/28/117/22/2
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Somnolent
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Somnolent
   Labs / Radiology
   9.4 g/dL
   89 K/uL
   77 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   32 mg/dL
   112 mEq/L
   143 mEq/L
   26.6 %
   0.5 K/uL
        [image002.jpg]
                             [**2173-2-25**]  04:30 PM
                             [**2173-2-25**]  06:43 PM
                             [**2173-2-25**]  06:55 PM
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
   WBC
   0.1
   0.1
   0.2
   0.5
   Hct
   21.5
   21.2
   29.3
   28.0
   26.6
   Plt
   64
   43
   87
   97
   89
   Cr
   0.7
   0.6
   0.6
   0.5
   TCO2
   26
   24
   24
   24
   Glucose
   104
   117
   118
   77
   Other labs: PT / PTT / INR:15.7/36.3/1.4, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:26/19, Alk Phos / T Bili:139/1.4,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, D-dimer:1775 ng/mL, Fibrinogen:636 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.1 mg/dL
   Microbiology: Resp and fungal cxs from yesterday pending
   Assessment and Plan
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   Respiratory failure: Extubated and on nasal cannula.  Respiratory
   alkalosis persists.  On caspofungin, vanco, meropenem, acyclovir.  Will
   continue efforts at diuresis.  Will try to obtained induced sputum for
   PCP. [**Name10 (NameIs) 1644**] tachypnea is in large part due to mucosal inflammation/
   pain.
   ID: Reculture lines
   Elevated LFTs: Tbili coming down.  RUQ U/S if they come up again.
   Oral Bleeding: resolved
   HTN: poorly controlled in setting of not being able to take po meds.
   Cont iv b-blocker, hydralazine, nitropaste --> change to a nitro gtt.
   Will try morphine for pain too. [**Month (only) 60**] help BP control. Cont to try to get
   fluid off
   HSV Mucositis: acyclovir.  [**Month (only) 60**] require TPN. NPO for now. Also attempt
   viscous lidocaine orally.
   APML: Followed by BMT team, follow DIC labs
   F/E/N: Goal neg 1L.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2173-02-28 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - advanced ice chips & tolerating well
   - better BP control with aggressive lasix diuresis, inc hydral &
   metoprolol
   - continues to have low grade temps, ordered induced sputum to r/o PCP
   [**Name Initial (PRE) **] LFTs revealed elev t.bili & alk phos but RUQ NTTP, hemolysis labs
   neg, repeat Tbili trended down
   - resp status improving, sating well on 2L, working on clearing
   secretions
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-27**] 07:50 PM
   Caspofungin - [**2173-2-27**] 08:55 PM
   Acyclovir - [**2173-2-28**] 04:00 AM
   Aztreonam - [**2173-2-28**] 06:03 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2173-2-27**] 05:00 PM
   Pantoprazole (Protonix) - [**2173-2-27**] 07:50 PM
   Furosemide (Lasix) - [**2173-2-27**] 08:20 PM
   Hydralazine - [**2173-2-28**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-28**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 89 (81 - 104) bpm
   BP: 159/75(103) {143/70(93) - 194/108(144)} mmHg
   RR: 24 (19 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  1,955 mL
                                                                    423 mL
   PO:
             TF:
   IVF:
                                                                  1,955 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                  1,075 mL
   Urine:
                                                                  3,675 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -652 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Head, Ears, Nose, Throat: oral ulcerations of bucal mucosa slighly
   worseed
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: w/ expiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   111 K/uL
   9.6 g/dL
   96 mg/dL
   0.7 mg/dL
   23 mEq/L
   2.7 mEq/L
   27 mg/dL
   109 mEq/L
   144 mEq/L
   26.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2173-2-25**]  06:43 PM
                             [**2173-2-25**]  06:55 PM
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
   WBC
   0.1
   0.2
   0.5
   1.0
   Hct
   21.2
   29.3
   28.0
   26.6
   26.4
   Plt
   43
   87
   97
   89
   111
   Cr
   0.6
   0.6
   0.5
   0.7
   TCO2
   26
   24
   24
   24
   Glucose
   117
   118
   77
   96
   Other labs: PT / PTT / INR:15.9/34.4/1.4, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:26/19, Alk Phos / T Bili:139/1.4,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Imaging: UENI:  1.  No evidence of DVT in the left upper extremity.
   2.  Left PICC in place extending proximally from the left basilic vein,
   without evidence of catheter-associated thrombus.
   Renal u/s w/ doppler:
   IMPRESSION:
   1.  No definite evidence of renal artery stenosis.  Normal main renal
   artery
   and venous waveforms bilaterally.
   2.  Trace ascites around the liver, and in Morison's pouch.
   Microbiology: B-Glucan + / galactommanon -
   Sputum Cx:  1+    Gram Stain w/   GRAM POSITIVE COCCI  IN PAIRS AND
   CLUSTERS.
   Assessment and Plan
   60 y/o F w/ APML s/p 12 days of [**Hospital 1322**] transferred to [**Hospital Unit Name 44**] w/ hemopytsis
   and worsening resp distress s/p intubation on [**2173-2-16**], extubated on
   [**2-24**].  Now with low grade fevers.
   #) Respiratory Failure:  resolving, pt has ongoing respiratory
   alkalosis and mucositis causing significant upper airway secretions. Pt
   initially p/w hemoptysis, pulm edema & ARDS of unknown etiology in
   setting of neutropenia.  Fungal & Viral sputum cultures negative, blood
   Cx NGTD.  IP performed bronch on[**2173-2-16**] w/ BAL.  Pt was successfully
   extubated on [**2-24**].
   -  sputum gram stain w/ GPC, f/u S/S, likely oral contamidation w/
   heavy upper respiratory secretions.
   -  continue empiric Abx with Vanc/Aztreonam/Caspo/Acyclovir.  Had been
   continued given ongoing neutropenia & low grade fevers.
   Neutrapenia/fevers resolved.  Will d/c abx on [**3-7**] to complete 7 day
   course.
   -  continue Rx for herpetic mucosytis with acyclovir covering HSV PNA,
   14 day course given.  Will discuss w/ BMT if can be changed to
   prophylactic dose.
   -  completed 5/5 days of levofloxacin for atypical coverage.
   -  fluconazole switched to caspo on [**2-22**].  Repeat glucan positive, f/u
   repeat fungal studies.
   - uanble to obtain specimen to check for new PCP
   [**Name Initial (PRE) **]  [**Name Initial (PRE) **]/o low grade DIC,oral bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100.  Vit K for increased INR likely [**1-16**] to
   nutrition.
   -  tachypneic & alkalosis w/ respiratory alkalosis.  Unclear if inc
   resp drive is due to aniexty or response to secretions.
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.  Continued respiratory alkalosis w/
   extubation.
   -Continue viscous lidocaine, magic mouthwash, ativan, morphine for
   pain/anxiety.
   #) Abn LFTs: LDH/Alk Phos/Tbili elevated, hct stable.  Repeat LFTs
   revealed T.bili trending down & hemolysis labs show stable haptoglobin
   & no significant schistocytes on smear.  No RUQ tenderness on exam
   - trending in morning labs
   - hct essentially stable,
   #) Acute systolic heart failure: echo on adm to ICU showed an EF drop
   from 70% to 10%, believed to be [**1-16**] chemo toxicity.  F/u TTE showed
   improved EF of 50%.  Per cards, started on coreg and valsartan and
   hyralazine.
   - currently NPO [**1-16**] mucositis, on IV metoprolol, hydralazine &
   nitropaste with poor BP control
   - continue to diurese, negative 1.8 L yesterday, will attempt to
   diurere off another liter.
   - once can tolerate [**Last Name (LF) **], [**First Name3 (LF) 178**] restart coreg/valsartan per cardiology
   - cardiology now signed off
   #) APML: Day 24 s/p induction with 7+3 and Atra, no longer neutropenic
   [**2-28**] and no low grade fevers in last 24 hrs. Still mild bleeding from
   oropharynx, better with higher plt transfusion goals, DIC labs
   otherwise stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - has not been getting PCP [**Name9 (PRE) **] as NPO, will discuss w/ BMT
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   #)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN had been controlled prior on
   alternative regimen.  Seems that BP almost refractory to current
   treatment, pt has hx of lifelong difficult to control BP.
   - increased hydralazine to 40mg IV q6hrs and lopressor 15mg q8hrs with
   nitropaste
   - unable to give pO hydral or cogreg or valsartan given NPO status
   - continue to diurese, negative 1.8 L yesterday, will attempt to
   diurere off another liter.
   - no evidence of RAS
   - Will not change current regimen and see where settles out.  Avoiding
   starting on nitro gtt.
    #) HSV:  hard palate swabs positive for HSV, increased Acyclovir to
   treatment dose, pt still unable to swallow.  Continue lidocaine, Magic
   Mouthwash, Morphine, Ativan prn.
   - advanced ice chips today, tolerated well
   - will talk to nutrition in am regarding TPN recs
   #) Constipation
 nothing per rectum while neutropenic.  Unable to take
   PO stool softeners.
   - started IV reglan [**2-26**]
   - pt having flatus, abd benign
   - start colace liquid
   ICU Care
   Nutrition:
   Comments: Clear diet, nectar pre-thickened liquids, unable to tolerate,
   TPN recs requested.
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-02-28 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   24 Hour Events:
   Feeling much better today - breathing more comfortable, mouth less
   uncomfortable
   BP remains high - latest SBP in 160s.
   O2 sats on 2L throughout the day
   History obtained from [**Hospital 85**] Medical records, ICU team
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-27**] 08:55 PM
   Acyclovir - [**2173-2-28**] 04:00 AM
   Aztreonam - [**2173-2-28**] 06:03 AM
   Vancomycin - [**2173-2-28**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-27**] 07:50 PM
   Furosemide (Lasix) - [**2173-2-27**] 08:20 PM
   Hydralazine - [**2173-2-28**] 08:00 AM
   Metoprolol - [**2173-2-28**] 10:00 AM
   Other medications:
   Synthroid, Nitropaste, RISS, Reglan, Atrovent, Vit K, Lopressor iv
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-28**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 75 (75 - 103) bpm
   BP: 166/86(114) {143/70(93) - 194/108(144)} mmHg
   RR: 23 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  1,955 mL
                                                                    905 mL
   PO:
             TF:
   IVF:
                                                                  1,955 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  3,675 mL
                                                                  1,435 mL
   Urine:
                                                                  3,675 mL
                                                                  1,435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,720 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   111 K/uL
   96 mg/dL
   0.7 mg/dL
   23 mEq/L
   2.7 mEq/L
   27 mg/dL
   109 mEq/L
   144 mEq/L
   26.4 %
   1.0 K/uL
        [image002.jpg]
                             [**2173-2-25**]  06:43 PM
                             [**2173-2-25**]  06:55 PM
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
   WBC
   0.1
   0.2
   0.5
   1.0
   Hct
   21.2
   29.3
   28.0
   26.6
   26.4
   Plt
   43
   87
   97
   89
   111
   Cr
   0.6
   0.6
   0.5
   0.7
   TCO2
   26
   24
   24
   24
   Glucose
   117
   118
   77
   96
   Other labs: PT / PTT / INR:15.9/34.4/1.4, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:26/19, Alk Phos / T Bili:139/1.4,
   Differential-Neuts:0.0 %, Band:0.0 %, Lymph:100.0 %, Mono:0.0 %,
   Eos:0.0 %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Fluid analysis / Other labs: ANC: 860
   Microbiology: B-glucan ([**2-23**]): positive
   Assessment and Plan
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   Respiratory failure: Doing well on nasal cannula.  On caspofungin,
   vanco, meropenem, acyclovir.  Fluid balance even for rest of day.
   Awaiting induced sputum for PCP.
   [**Last Name (NamePattern4) **]: Reculture lines
   Elevated LFTs: Tbili coming down.  RUQ U/S if they come up again.
   HTN: Slightly improved on iv b-blocker, hydralazine, nitropaste -->
   resume pos when she can tolerate.  Cont pain control to help with blood
   pressure
   Heat Failure: Now appears to be resolved
   HSV Mucositis: acyclovir.  NPO for now. Also attempt viscous lidocaine
   orally.
   APML: Followed by BMT team, follow DIC labs.  ANC improving.
   F/E/N: Start TPN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2173-03-01 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -starting patient on TPN tomorrow
   - switched to ppx acyclovir dosage
   -still not taking in anything PO
   - remains persistently hypertensive
   - decision was made not to diurere and see if mobilized fluid on her
   own.  Was negative 500 cc throughout the day, but ended even by
   midnight.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-28**] 07:58 PM
   Caspofungin - [**2173-2-28**] 08:50 PM
   Acyclovir - [**2173-3-1**] 04:00 AM
   Aztreonam - [**2173-3-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-28**] 08:00 PM
   Hydralazine - [**2173-3-1**] 02:30 AM
   Morphine Sulfate - [**2173-3-1**] 02:42 AM
   Metoprolol - [**2173-3-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Flowsheet Data as of  [**2173-3-1**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 89 (64 - 93) bpm
   BP: 173/87(120) {159/79(108) - 179/92(126)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  2,304 mL
                                                                    572 mL
   PO:
             TF:
   IVF:
                                                                  2,051 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    480 mL
   Urine:
                                                                  2,020 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    284 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   191 K/uL
   9.1 g/dL
   130 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   24 mg/dL
   109 mEq/L
   141 mEq/L
   26.8 %
   2.1 K/uL
        [image002.jpg]
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
   WBC
   0.1
   0.2
   0.5
   1.0
   2.1
   Hct
   29.3
   28.0
   26.6
   26.4
   26.8
   Plt
   43
   87
   97
   89
   111
   191
   Cr
   0.6
   0.6
   0.5
   0.7
   0.6
   TCO2
   24
   24
   24
   Glucose
   117
   118
   77
   96
   130
   Other labs: PT / PTT / INR:14.9/29.7/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:26/19, Alk Phos / T Bili:139/1.4,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:0.0
   %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.8 g/dL, LDH:313 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 HEMOPTYSIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 NEUTROPENIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   60 y/o F w/ APML s/p 12 days of [**Hospital 1322**] transferred to [**Hospital Unit Name 44**] w/ hemopytsis
   and worsening resp distress s/p intubation on [**2173-2-16**], extubated on
   [**2-24**].  Now with low grade fevers.
   #) Respiratory Failure:  resolving, pt has ongoing respiratory
   alkalosis and mucositis causing significant upper airway secretions. Pt
   initially p/w hemoptysis, pulm edema & ARDS of unknown etiology in
   setting of neutropenia.  Fungal & Viral sputum cultures negative, blood
   Cx NGTD.  IP performed bronch on[**2173-2-16**] w/ BAL.  Pt was successfully
   extubated on [**2-24**].
   -  sputum gram stain w/ GPC, f/u S/S, likely oral contamidation w/
   heavy upper respiratory secretions.
   -  continue empiric Abx with Vanc/Aztreonam/Caspo/Acyclovir.  Had been
   continued given ongoing neutropenia & low grade fevers.
   Neutrapenia/fevers resolved.  Will d/c abx on [**3-7**] to complete 7 day
   course.
   -  continue Rx for herpetic mucosytis with acyclovir covering HSV PNA,
   14 day course given.  Will discuss w/ BMT if can be changed to
   prophylactic dose.
   -  completed 5/5 days of levofloxacin for atypical coverage.
   -  fluconazole switched to caspo on [**2-22**].  Repeat glucan positive, f/u
   repeat fungal studies.
   - uanble to obtain specimen to check for new PCP
   [**Name Initial (PRE) **]  [**Name Initial (PRE) **]/o low grade DIC,oral bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100.  Vit K for increased INR likely [**1-16**] to
   nutrition.
   -  tachypneic & alkalosis w/ respiratory alkalosis.  Unclear if inc
   resp drive is due to aniexty or response to secretions.
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.  Continued respiratory alkalosis w/
   extubation.
   -Continue viscous lidocaine, magic mouthwash, ativan, morphine for
   pain/anxiety.
   #) Abn LFTs: LDH/Alk Phos/Tbili elevated, hct stable.  Repeat LFTs
   revealed T.bili trending down & hemolysis labs show stable haptoglobin
   & no significant schistocytes on smear.  No RUQ tenderness on exam
   - trending in morning labs
   - hct essentially stable,
   #) Acute systolic heart failure: echo on adm to ICU showed an EF drop
   from 70% to 10%, believed to be [**1-16**] chemo toxicity.  F/u TTE showed
   improved EF of 50%.  Per cards, started on coreg and valsartan and
   hyralazine.
   - currently NPO [**1-16**] mucositis, on IV metoprolol, hydralazine &
   nitropaste with poor BP control
   - continue to diurese, negative 1.8 L yesterday, will attempt to
   diurere off another liter.
   - once can tolerate [**Last Name (LF) **], [**First Name3 (LF) 178**] restart coreg/valsartan per cardiology
   - cardiology now signed off
   #) APML: Day 24 s/p induction with 7+3 and Atra, no longer neutropenic
   [**2-28**] and no low grade fevers in last 24 hrs. Still mild bleeding from
   oropharynx, better with higher plt transfusion goals, DIC labs
   otherwise stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - has not been getting PCP [**Name9 (PRE) **] as NPO, will discuss w/ BMT
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   #)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN had been controlled prior on
   alternative regimen.  Seems that BP almost refractory to current
   treatment, pt has hx of lifelong difficult to control BP.
   - increased hydralazine to 40mg IV q6hrs and lopressor 15mg q8hrs with
   nitropaste
   - unable to give pO hydral or cogreg or valsartan given NPO status
   - continue to diurese, negative 1.8 L yesterday, will attempt to
   diurere off another liter.
   - no evidence of RAS
   - Will not change current regimen and see where settles out.  Avoiding
   starting on nitro gtt.
    #) HSV:  hard palate swabs positive for HSV, increased Acyclovir to
   treatment dose, pt still unable to swallow.  Continue lidocaine, Magic
   Mouthwash, Morphine, Ativan prn.
   - advanced ice chips today, tolerated well
   - will talk to nutrition in am regarding TPN recs
   #) Constipation
 nothing per rectum while neutropenic.  Unable to take
   PO stool softeners.
   - started IV reglan [**2-26**]
   - pt having flatus, abd benign
   - start colace liquid
   ICU Care
   Nutrition:
   Comments: Clear diet, nectar pre-thickened liquids, unable to tolerate,
   TPN recs requested.
   Glycemic Control:
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   TPN without Lipids - [**2173-2-28**] 06:00 PM 42.[**Telephone/Fax (3) 1664**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2173-03-01 11:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   acyclovir switched to prophylaxis dose
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Caspofungin - [**2173-2-28**] 08:50 PM
   Acyclovir - [**2173-3-1**] 04:00 AM
   Aztreonam - [**2173-3-1**] 06:00 AM
   Vancomycin - [**2173-3-1**] 07:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2173-2-28**] 08:00 PM
   Morphine Sulfate - [**2173-3-1**] 02:42 AM
   Hydralazine - [**2173-3-1**] 07:40 AM
   Metoprolol - [**2173-3-1**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-1**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 84 (64 - 92) bpm
   BP: 179/88(123) {159/79(108) - 182/92(126)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  2,304 mL
                                                                  1,005 mL
   PO:
             TF:
   IVF:
                                                                  2,051 mL
                                                                    516 mL
   Blood products:
   Total out:
                                                                  2,020 mL
                                                                    830 mL
   Urine:
                                                                  2,020 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    284 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   191 K/uL
   158 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   30 mg/dL
   109 mEq/L
   139 mEq/L
   26.8 %
   2.1 K/uL
        [image002.jpg]
                             [**2173-2-26**]  05:10 AM
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
   WBC
   0.1
   0.2
   0.5
   1.0
   2.1
   Hct
   29.3
   28.0
   26.6
   26.4
   26.8
   Plt
   43
   87
   97
   89
   111
   191
   Cr
   0.6
   0.6
   0.5
   0.7
   0.6
   0.6
   TCO2
   24
   24
   24
   Glucose
   117
   118
   77
   96
   130
   158
   Other labs: PT / PTT / INR:14.9/29.7/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/18, Alk Phos / T Bili:192/0.8,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:0.0
   %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.8 g/dL, LDH:344 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   1. respiratory failure: doing well on nasal cannula. Remains on empiric
   caspofungin, vanco, aztreonam, and  acyclovir (for herpetic mucocytis).
   Fluid balance even, would keep overall negative if possible.
   2. ID: all cultures negative, afebrile, no longer neutropenic. Would
   consider atovaquone for PCP [**Name Initial (PRE) 1374**].
   3. HTN: Slightly improved on iv b-blocker, hydralazine, nitropaste.
   Start clonidine patch. Cont diuresis and pain control
   4. HSV Mucositis: back on proph acyclovir.
   NPO for now.
   5. APML: Followed by BMT team
   6. FEN: on TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2173-2-28**] 06:00 PM 42.[**Telephone/Fax (3) 1664**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2173-03-02 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - kept another day in ICU as BMT did not feel that she was quite ready
   for the floor
   - 40mg IV lasix x2 for goal UOP of -1L
   - lopressor changed to labetolol for persistently elevated BP's, dose
   double in pm [**1-16**] persistenly high BP's
   - per BMT, no need for atovaquone right now despite not taking po
   bactrim
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-1**] 07:40 AM
   Caspofungin - [**2173-3-1**] 08:29 PM
   Acyclovir - [**2173-3-2**] 04:00 AM
   Aztreonam - [**2173-3-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2173-3-1**] 10:00 AM
   Hydralazine - [**2173-3-2**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-2**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 93 (78 - 104) bpm
   BP: 168/77(107) {157/73(101) - 195/97(136)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  2,430 mL
                                                                    699 mL
   PO:
             TF:
   IVF:
                                                                  1,290 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                  1,720 mL
   Urine:
                                                                  2,860 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                 -1,021 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, less participatory
   HEENT: significant oral excoriations on roof of mouth and on tongue
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: w/ inspiration on R)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, improved
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   268 K/uL
   9.1 g/dL
   158 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.9 mEq/L
   30 mg/dL
   109 mEq/L
   139 mEq/L
   25.9 %
   3.5 K/uL
        [image002.jpg]
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
                             [**2173-3-2**]  05:40 AM
   WBC
   0.2
   0.5
   1.0
   2.1
   3.5
   Hct
   28.0
   26.6
   26.4
   26.8
   25.9
   Plt
   87
   97
   89
   111
   191
   268
   Cr
   0.6
   0.5
   0.7
   0.6
   0.6
   TCO2
   24
   24
   24
   Glucose
   118
   77
   96
   130
   158
   Other labs: PT / PTT / INR:14.9/29.7/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/18, Alk Phos / T Bili:192/0.8,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:0.0
   %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.8 g/dL, LDH:344 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Imaging: CXR:  The heart is mildly enlarged.  There are multifocal
   airspace opacities, which
   can be consistent with given history.  There is no substantial change
   since
   the prior study.
   Assessment and Plan
   60 y/o F w/ APML s/p 12 days of [**Hospital 1322**] transferred to [**Hospital Unit Name 44**] w/ hemopytsis
   and worsening resp distress s/p intubation on [**2173-2-16**], extubated on
   [**2-24**].  Now with low grade fevers.
    #) Respiratory Failure:  resolving, pt has ongoing respiratory
   alkalosis and mucositis causing significant upper airway secretions. Pt
   initially p/w hemoptysis, pulm edema & ARDS of unknown etiology in
   setting of neutropenia.  Fungal & Viral sputum cultures negative, blood
   Cx NGTD.  IP performed bronch on[**2173-2-16**] w/ BAL.  Pt was successfully
   extubated on [**2-24**].
   -  continue empiric Abx with Vanc/Aztreonam/Caspo/Acyclovir.  Had been
   continued given ongoing neutropenia & low grade fevers.
   Neutrapenia/fevers resolved.  Will d/c abx on [**3-7**] to complete 7 day
   course. Elevated vanc levels, but normal renal function.  Will dose by
   level w/ goal of 15-20.
   -  acyclovir switched to prophylactic dose as had received 14d of rx
   and no longer neutrapenic.
   -  completed 5/5 days of levofloxacin for atypical coverage.
   -  fluconazole switched to caspo on [**2-22**].  Repeat glucan strongly
   positive, f/u repeat fungal studies.  Discuss w/ ID how long to
   complete course.
   - unable to obtain specimen to check for new PCP, [**Name10 (NameIs) **] hold off dosing
   atovaquone while patient unable to tolerate po
s per BMT.
   -  e/o low grade DIC, oral bleeding improved with maintaining plt > 50,
   INR < 1.5, fibrinogen > 100.  Vit K for increased INR likely [**1-16**] to
   nutrition.
   -  tachypneic & alkalosis w/ respiratory alkalosis.  Unclear if inc
   resp drive is due to aniexty or response to secretions.
   - I/O goal 1 L negative, using lasix PRN
   #) Alkalemia
 respiratory alkalosis from hyperventilation.  [**Month (only) 60**] be
   response to agitation or oral pain.  Continued respiratory alkalosis w/
   extubation.  Elevated bicarbonate suggest metabolic, w/ likely
   contraction component in setting of diuresis
   -Continue viscous lidocaine, magic mouthwash, ativan, morphine for
   pain/anxiety.
   #) Abn LFTs: LDH/Alk Phos/Tbili elevated, hct stable.  Repeat LFTs
   revealed T.bili trending down & hemolysis labs show stable haptoglobin
   & no significant schistocytes on smear.  No RUQ tenderness on exam
   - trending in morning labs
   - hct essentially stable,
   #) Acute systolic heart failure: echo on adm to ICU showed an EF drop
   from 70% to 10%, believed to be [**1-16**] chemo toxicity.  F/u TTE showed
   improved EF of 50%.  Per cards, started on coreg and valsartan and
   hyralazine.
   - currently NPO [**1-16**] mucositis, on hydralazine & nitropaste with poor BP
   control, and IV metoprolol switched to IV labatolol yesterday
   - continue to diurese, will attempt to diurese off another liter.
   - once can tolerate [**Last Name (LF) **], [**First Name3 (LF) 178**] restart coreg/valsartan per cardiology
   - cardiology now signed off
   #) APML: Day 24 s/p induction with 7+3 and Atra, no longer neutropenic
   [**2-28**] and no low grade fevers in last 24 hrs. Still mild bleeding from
   oropharynx, better with higher plt transfusion goals, DIC labs
   otherwise stable.
   - f/u BMT recs, holding on chemo/Atra for now
   - has not been getting PCP [**Name9 (PRE) **] as NPO, ok BMT
   - increase plt threshold to 50 given increase oral bleeding after
   reduction
   #)  HTN:   Pressures became persistenly elevated despite doubling doses
   of antihypertensive regimen, HTN had been controlled prior on
   alternative regimen.  Seems that BP almost refractory to current
   treatment, pt has hx of lifelong difficult to control BP.  Renal US
   showed no evidence of renal artery stenosis.  BP has not been
   particularly responsive to diuresis.
   - increased hydralazine to 40mg IV q4hrs and switched lopressor to
   laetolol plus nitropaste
   - patinet continued hypertension, will add on clonidine patch today
   - unable to give po hydral or cogreg or valsartan given NPO status
   - continue to diurese,  will attempt to diurere off another liter.
   - no evidence of RAS
   -.  Avoiding starting on nitro gtt.
    #) HSV:  hard palate swabs positive for HSV, increased Acyclovir to
   treatment dose, pt still unable to swallow.  Continue lidocaine, Magic
   Mouthwash, Morphine, Ativan prn.
   - advanced ice chips today, tolerated well
   - TPN
   - speech and swallow study
   - start on clear diet doday
   #) Constipation
 nothing per rectum while neutropenic.  Unable to take
   PO stool softeners.
   - started IV reglan [**2-26**]
   - pt having flatus, abd benign
   - start colace liquid
   ICU Care
   Nutrition:
   TPN without Lipids - [**2173-3-1**] 05:43 PM 62.[**Telephone/Fax (5) 1682**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-3-1**] 08:41 PM
   PICC Line - [**2173-3-1**] 08:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2173-03-02 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Kept in ICU for observation and nursing care.
   Desaturated to 88% when O2 weaned to 1L
   MEDS reviewed - hydral, nitropaste, labetolol
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2173-3-1**] 07:40 AM
   Caspofungin - [**2173-3-1**] 08:29 PM
   Acyclovir - [**2173-3-2**] 04:00 AM
   Aztreonam - [**2173-3-2**] 06:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2173-3-2**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-3-2**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 89 (79 - 107) bpm
   BP: 151/71(89) {76/64(80) - 178/88(120)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.2 kg (admission): 72.2 kg
             Total In:
                                                                  2,422 mL
                                                                  1,141 mL
   PO:
             TF:
   IVF:
                                                                  1,290 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  2,860 mL
                                                                  2,330 mL
   Urine:
                                                                  2,860 mL
                                                                  2,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -438 mL
                                                                 -1,187 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, lethargic
   Labs / Radiology
   9.1 g/dL
   268 K/uL
   199 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.1 mEq/L
   34 mg/dL
   104 mEq/L
   140 mEq/L
   25.9 %
   3.5 K/uL
        [image002.jpg]
                             [**2173-2-26**]  07:23 AM
                             [**2173-2-26**]  02:56 PM
                             [**2173-2-26**]  04:38 PM
                             [**2173-2-27**]  04:18 AM
                             [**2173-2-27**]  05:12 AM
                             [**2173-2-27**]  06:03 AM
                             [**2173-2-28**]  04:37 AM
                             [**2173-2-28**]  04:00 PM
                             [**2173-3-1**]  05:30 AM
                             [**2173-3-2**]  05:40 AM
   WBC
   0.2
   0.5
   1.0
   2.1
   3.5
   Hct
   28.0
   26.6
   26.4
   26.8
   25.9
   Plt
   87
   97
   89
   111
   191
   268
   Cr
   0.6
   0.5
   0.7
   0.6
   0.6
   0.6
   TCO2
   24
   24
   24
   Glucose
   118
   77
   96
   130
   158
   199
   Other labs: PT / PTT / INR:14.9/29.7/1.3, CK / CKMB /
   Troponin-T:57/3/0.04, ALT / AST:28/18, Alk Phos / T Bili:192/0.8,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:0.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:1775 ng/mL, Fibrinogen:590 mg/dL, Lactic Acid:1.4
   mmol/L, Albumin:2.8 g/dL, LDH:344 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   60 yo woman with APML, s/p ATRA, course c/b febrile neutropenia,
   hypoxemia, pulmonary edema.
   1. Resp: stable on nasal cannula. Fluid balance even, would keep
   overall even to negative.
   2. ID: all cultures negative, afebrile, no longer neutropenic. Would
   consider atovaquone for PCP [**Name Initial (PRE) 1374**].
   Remains on empiric caspofungin, vanco, aztreonam. On proph dose of
   acyclovir (for herpetic mucocytis). To complete 7 days of Abx following
   recovery of neutropenia.
   3. HTN: Slightly improved on iv b-blocker, hydralazine, nitropaste.
   Would start clonidine patch. Cont diuresis and pain control.
   4. HSV Mucositis: back on proph acyclovir. Limit patient's
   self-suctioning. NPO for now. DFA of ulcers if worse.
   5. APML: Followed by BMT team
   6. FEN: on TPN
   ICU Care
   Nutrition:
   TPN without Lipids - [**2173-3-1**] 05:50 PM 62.5 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2173-2-13**] 01:00 PM
   Arterial Line - [**2173-2-20**] 07:14 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes